### ISSUE TITLE
header RLP decode bridge: machine header_extended_decode succeeds/fails ⟺ SpecRef _decode_header succeeds/fails (split from the refuted 'one artifact' framing)

### ISSUE THREAD

**Issue by pirapira** [Verified-zkEVM/evm-asm#12457]
Maintainer decision, 2026-08-15: **do this next**, chosen over `_start` pinning, the K146 triple (#12427) and the SAsm migration (#12399) — *"facing uncertainty is important."*

⚠️ **Noting the reasoning explicitly, because it corrects the way this was ranked.** I put `_start` pinning first partly because it was better-defined and this is unscoped. **That is not a good reason to defer the higher-leverage item** — the absence of scoping is the work, not an argument against it.

## What is owed

Both directions, at the decode boundary:

- **machine decode fails ⇒ spec decode fails** — else a **FALSE REJECT**
- **spec decode fails ⇒ machine decode fails** — else a **FALSE ACCEPT**

## Three consumers, all currently stalled on it

1. **#12419** — #12408's builders **PACKAGE** supplied machine proofs rather than **DERIVE** them; `SharedFuel`/`ValidateFuel` carry only structural cursor/end/window facts.
2. **#12346** — **no `ValidateHeaderPair` decode correspondence exists at all.** Closed arms: statuses 1/3/5/6 inline, 7 extra-data, `check_gas_limit` Ref-refined. Open: 2 excess-blob, 4 base-fee, 8–10 K67, 11 parent-hash. ⛔ Status 11 is an unproven **leaf**: `headers_parent_hash` (`0x8000b3fc`) has no Progress row and no triple — *"emit drift only"* (`HeaderValidateParentHashSpec.lean:180`).
3. **#12455 / the summit** — the maintainer chose byte-exact `runStatelessGuestFaithful`, which is quantified under `deserialize_stateless_input input = .ok si`. ⇒ **Byte-exactness says nothing about inputs where deserialization fails**, so the bridge is owed regardless.

## ⛔ The trap this exists to close

A premise of the form `hdecode = .ok` **reads like a proof and functions as a RESTRICTION**. **Check the caller**: if nothing discharges it, the theorem covers only inputs where decode already succeeded — and the interesting failures are precisely the ones outside that set. One of five vacuity traps found here in a single night.

## First deliverable is a SCOPE, not a proof

⭐ **This is unscoped and that is acknowledged.** Do not commit a night to proving before an hour of measuring. The scope must answer:

1. **Which decode boundary?** `deserialize_stateless_input` at the summit, `_decode_header` / `ValidateHeaderPair` at the header level, and the RLP walk at K20 are three *different* boundaries. **Establish whether one bridge serves all three or whether "one artifact" is my inference from three agents' reports rather than a fact.** ⛔ If it is three artifacts, say so — that is a more useful result than a forced unification.
2. **What does each consumer actually need?** Name the premise each would discharge, at its call site.
3. **What already exists?** `decode_header_inv` exists (per #12346's audit) but no machine-success → SpecRef bridge. ⭐ **Ask what consumes it, transitively** — eleven existence-is-not-use findings this week, including a proven lifting lemma (`guestImage_block_sub`) with zero consumers.

## Constraints

- **Envelope preconditions are mandatory and already ratified** (#12451): U64 caps on fields 8/9/10/11, U256 ≤32 on field 15, measured at the emitted code. **Preconditions, never gates.**
- ⛔ **Anti-vacuity is binding.** Attempt a degenerate inhabitant; a bridge true because nothing satisfies its hypotheses is worse than no bridge, because it looks like progress.
- ⛔ **Do not trade one named residual for N unowned premises.** Any proposed statement comes with an ownership table naming who discharges each premise — **and where the answer is nobody, say nobody.**

**Comment by pirapira** [comment]
## ⛔ REFUTED: "one artifact" is false. Three boundary bridges, measured

Scoped read-only at `origin/main` `b76bde14c`. **My framing was wrong and I am recording that plainly** — I wrote "one artifact, three consumers" as an inference from three agents' reports, flagged it as unmeasured, and asked for it to be tested. It does not hold.

**A shared pure decode relation can be reused, but one CPS theorem cannot serve SSZ input, header RLP + struct ABI, and the recursive K20 walk.** Scope as three artifacts with an ownership table, not a forced unification.

### 1. Summit SSZ boundary

`SpecRef/Guest.lean:29-37` — `deserialize_stateless_input` (schema-id → `SszCodec.deserialize` → `sszToStatelessInput`). `runStatelessGuestFaithful` (`EntrySpec.lean:202-219`) is quantified under `deserialize = .ok`; `TopComposition.lean:397-406` has only an abstract `InputDecodePhaseShape`.

⛔ **There is no concrete machine full-input decoder for a bridge to consume.** `Stateless/Entry.lean:91` `run_stateless_guest` is still the PR6 stub — `read_chain_id_verified ++ decode_validation_bit ++ decode_header_count ++ serialize_stateless_output`. It does not execute a block, and `StatelessGuest.lean:81` sets it as the unit's `body`. `TopComposition.lean:334` already records this as *"a parameter, not a claim."*

⇒ ⭐ **This is load-bearing for #12455.** Byte-exact `Faithful` cannot be discharged against a stub body. **The blocker is Entry/input-decode-phase work, not proof technique.** `sanityInputBytes`/guards (`Guest.lean:117-166`) are pure-model non-vacuity only. **Owner: nobody.**

### 2. Header RLP boundary

`SpecRef/Stateless.lean` `_decode_header` (`:210+`) and `decode_header_inv` (`:350`) give **spec-success inversion only**. `ValidateHeaderPair.lean:12-72` calls the arity check twice, `header_extended_decode` twice, then `validate_header` — **no machine ↔ `_decode_header` theorem and no decoder-failure branch.**

⭐ `decode_header_inv` **is used** (not dead): `HeaderValidateExtraDataLengthBridge`, `HeaderExtractLogsBloomBridge`, `HeaderExtractNumberBridge` — but all consume **successful-decode facts only**. **Owner: nobody**; #12346 is first consumer. Envelope preconditions per #12451 (U64 fields 8/9/10/11, U256 ≤32 field 15, difficulty ≤8) — preconditions, not gates.

### 3. K20 RLP walk boundary

`Rv64/RLP/WalkNextStrict.lean:62` defines `rlpItemDecodeStrictW`; `:798`/`:839` prove **both model directions** against `decodeAux`. ⛔ But `RlpWalkNextStrictTie.lean:588` gives a machine CPS triple **only for NON-LIST arms** — list arms enter `rlp_validate_payload` and remain untied. `RlpWalkNextStrictFuelContracts/Main` carry explicit `hitem`/`ValidateK`, which is exactly the package-not-derive residual #12419 names. **Owner: #12419.**

### Non-vacuity

Canonical item witness at `WalkNextStrict.lean:879+`, nested model example at `RlpDecodeFullyForward.lean:230+`, header/summit pure guards exist — ⚠️ **but no machine full-boundary inhabitant yet at any of the three.**

**Comment by pirapira** [comment]
## Split confirmed — this issue is now the HEADER boundary only

Maintainer, 2026-08-15: *"splitting sounds good."* ⇒ The three measured boundaries are tracked separately, as the scoping showed they must be.

| boundary | where it lives now |
|---|---|
| **Header RLP + struct ABI** | ⭐ **this issue** |
| **Summit SSZ input** | **#12458** — blocked on `run_stateless_guest` being a stub; there is no machine full-input decoder to bridge to |
| **K20 recursive RLP walk** | **#12419** — list arms enter `rlp_validate_payload` and remain untied |

⛔ **The "one artifact" framing was mine and it was refuted by measurement.** A shared *pure* decode relation can be reused across the three; **one CPS theorem cannot serve them.** Keeping this issue unified would have forced exactly the unification the scoping ruled out.

## Scope of this issue

**Both directions at the header decode boundary:**
- machine `header_extended_decode` fails ⇒ `SpecRef._decode_header` fails — else a **FALSE REJECT**
- `_decode_header` fails ⇒ machine fails — else a **FALSE ACCEPT**

**What exists** (measured at `origin/main` `b76bde14c`): `_decode_header` at `SpecRef/Stateless.lean:210+` and `decode_header_inv` at `:350` give **spec-success inversion only**. ⭐ `decode_header_inv` is **genuinely consumed** — `HeaderValidateExtraDataLengthBridge`, `HeaderExtractLogsBloomBridge`, `HeaderExtractNumberBridge` — but **all three take successful-decode facts only.** `ValidateHeaderPair.lean:12-72` calls the arity check twice, `header_extended_decode` twice, then `validate_header`, with **no machine ↔ `_decode_header` theorem and no decoder-failure branch.**

**First consumer:** #12346, which stops at exactly this dependency.

## Constraints

- **Envelope preconditions are ratified and mandatory** (#12451): U64 caps on fields 8/9/10/11, U256 ≤32 on field 15, difficulty ≤8 — measured at the emitted code. **Preconditions, never gates.**
- ⛔ **A premise of the form `hdecode = .ok` reads like a proof and functions as a RESTRICTION.** Check the caller. If nothing discharges it, the theorem covers only inputs where decode already succeeded — and the interesting failures are precisely the ones outside that set.
- ⛔ **Anti-vacuity binding.** ⚠️ The scoping found **no machine full-boundary inhabitant at any of the three boundaries** — so a degenerate-inhabitant attempt here is not a formality.
- ⛔ **Ownership table with any proposed statement** — where nobody discharges a premise, say nobody.

**Comment by pirapira** [comment]
## Measured boundary correction: direct decoder is not the full `_decode_header` relation

At `origin/main` `b76bde14c`, I built a standalone probe from the current `header_extended_decode` closure (ELF `/tmp/12457-header-probe.elf`) and ran a **canonical 20-field RLP list**:

- full encoding: 565 bytes; list payload: 562 bytes;
- fields 0..18 are valid for the decoder, including the 256-byte field 6 with canonical `b9 0100` length;
- scalar one-byte values use canonical raw `0x01` encodings;
- field 19 is an extra valid 32-byte item.

The direct machine entry returns `a0 = 0` (success), with the output beginning `0000000000000000 111111...` (status zero and copied parent hash). The pinned Amsterdam reference `_decode_header` rejects the same bytes with:

> `DecodingError: Header needs 21 field(s), but got 20 instead`

So an unrestricted theorem `header_extended_decode succeeds/fails ↔ SpecRef._decode_header succeeds/fails` is false. The machine decoder walks only fields 0..18 and has no exact list-count check (`HeaderDecode.lean`, `headerExtendedDecode_prog`, 174 instructions). The separate `header_extended_decode_arity_check` counts and requires exactly 21 or 23 before each of the two linked decoder calls in `ValidateHeaderPair.lean`; the current production caller is therefore safe for this witness, but the mismatch is a real standalone-entry contract gap.

The bridge must consequently be scoped to the combined arity-check + decoder boundary, or state an explicit exact-arity precondition. A decoder theorem that hides this as an assumed successful decode would not cover the failure surface.

**Comment by pirapira** [comment]
## Boundary settled by positive construction: the honest scope is the pair+arity boundary

Measured at `b76bde14c` with a purpose-built probe (`header_extended_decode` assembled standalone, RV64IM).

**Input**: canonical RLP list, 20 fields, body 562 B / full encoding 565 B; fields 0–18 valid (including the 256-byte field 6 with canonical `b9 0100` length, and one-byte scalars emitted as raw `0x01`); field 19 an extra 32-byte item.

- **Machine `header_extended_decode`: `a0 = 0`, success.** Output begins `0000000000000000` with the parent hash copied.
- **Reference `_decode_header` on the same bytes: `DecodingError: Header needs 21 field(s), but got 20`.**

⇒ ⛔ **An unrestricted `header_extended_decode ⟺ _decode_header` iff is FALSE.** Anyone stating one would be stating something untrue.

## Why production is safe today — and why that is not comfortable

Both linked JALs to the decoder originate in `validate_header_rlp_pair`, and **each is preceded by `header_extended_decode_arity_check`, which requires exactly 21 or 23.** The witness above is unreachable from the current caller graph.

⚠️ **That is precisely #12438's shape.** There, the arity checker existed, was linked, and **had no caller** — and the result was a live false accept that reached `main`. The safety here rests entirely on a call-site convention that nothing enforces: **a third caller of `header_extended_decode` added without the arity check makes this witness live.**

## Scope decision (taken; maintainer asleep, #12346 is the priority)

**The bridge is scoped to the combined pair+arity boundary** — i.e. `ValidateHeaderPair`'s decoder+checker composition ⟺ `_decode_header` — **or**, equivalently, a decoder theorem **explicitly parameterised by an exact-arity hypothesis**.

⛔ **Do not state an unrestricted decoder iff.** ⚠️ And if the parameterised form is chosen, the exact-arity hypothesis **must be discharged at the call site**, not left dangling — an undischarged `harity` is the same restriction-masquerading-as-proof shape as `hdecode = .ok`.

## Follow-up worth filing separately

⭐ **A cheap structural guard**: assert that every JAL targeting `header_extended_decode` is preceded by an `header_extended_decode_arity_check` call, checked from the linked disassembly. That converts a convention into a gate, and it is the check that would have caught #12438 automatically.

⚠️ **Alternative worth weighing**: fold the arity check into the decoder so the unrestricted iff becomes true. Under the standing rule that an easier proof justifies an implementation change even when the defect is unreachable, this is a legitimate option — **it removes the hypothesis rather than discharging it repeatedly.** Cost: emitted bytes and layout move.

**Comment by pirapira** [comment]
## Paired arity-boundary construction (origin/main b76bde14c)

Re-ran the same canonical 20-field, 565-byte input through the exact checker that production calls before the decoder. The standalone `header_extended_decode` probe returns `a0=0` (success), ELF sha256 `9df1755ea9f74c9a622b10f689b282aeadbbaada31878440dfdb7c8913407838`; the standalone `header_extended_decode_arity_check` probe returns `a0=1` (reject), ELF sha256 `27dd1cffd89e52cd623262181c7c54500e1c7e27270a001c56fd497051e99021`. The pinned Amsterdam `_decode_header` rejects the same bytes (`Header needs 21 field(s), but got 20 instead`).

This is the positive call-site evidence for the selected scope: exact arity is not part of the decoder contract, but the paired arity-check + decoder boundary agrees with the reference. The bridge must expose/discharge that exact-arity fact at each caller; it must not state an unrestricted decoder iff or hide a successful-decode premise. Decoder folding is intentionally not being used because it duplicates an already-linked checker and moves the image.

**Comment by pirapira** [comment]
Correction to the bridge-contract message: the theorem is not yet stated or proved in Lean. The intended statement is a pair-boundary post over the arity-check status, decoder status, and 144-byte output. The checker result (count exactly 21 or 23 plus field canonicality/width checks) must be obtained at each validate_header_rlp_pair call site; it is not a free decoder precondition. Under that call-site fact and the ratified envelope bounds, the two required implications are: decoder status zero with output matching the SpecRef header iff _decode_header returns ok; decoder nonzero iff _decode_header returns headerDecodeError. No successful-decode premise is hidden in the bridge.

**Comment by pirapira** [comment]
Correction to the vacuity probe note: the earlier 23-field SpecRef rejection was an input-reader artifact (host padding past the declared 8-byte header-length prefix / stale case). With the declared length honored, the canonical 23-field input is accepted by Amsterdam _decode_header, and both canonical 21-field and 23-field inputs produce arity c=0 and decoder d=0. Width/canonicality mutations are rejected by the arity checker before the decoder. No c=0,d≠0 or c=0,SpecRef-error construction has been found; the stronger candidate contract is c=0 implies d=0 and SpecRef success, with the decoder-failure biconditional arm reported as vacuous if the checker coverage proof closes.

**Comment by pirapira** [comment]
### Clean 23-field construction (corrected)

Rebuilt deterministically at the pinned e5a8caf1 reference and guest source b76bde14c. `/tmp/12457-valid23.input` has declared/full length 637 bytes, 23 top-level RLP items, input SHA256 `c67c52490f194ed93e3859963f8ca909163f217adce6094c34428ff5234027d1`; fields 21 and 22 are a 32-byte block_access_list_hash and raw one-byte slot_number respectively. Pinned `rlp.decode_to(amsterdam.Header, bytes)` returns a Header (slot_number=1, BAL hash length 32), and `_decode_header` returns Header successfully.

On the same input, the decoder probe ELF `9df1755ea9f74c9a622b10f689b282aeadbbaada31878440dfdb7c8913407838` returns d=0, while the arity-check probe ELF `27dd1cffd89e52cd623262181c7c54500e1c7e27270a001c56fd497051e99021` returns c=0. The earlier contrary 23-field result was malformed/stale input handling and is withdrawn. This is the clean c=0, d=0, SpecRef-ok construction needed for the vacuity check.

**Comment by pirapira** [comment]
## Vacuity settled by construction — the failure arm is vacuous, and the stronger contract replaces it

Six constructions at `b76bde14c`, each run against the guest probes and the pinned reference.

| input | c (arity) | d (decoder) | SpecRef |
|---|---|---|---|
| canonical 21-field | 0 | 0 | ✅ ok |
| canonical 23-field (`sha256 c67c5249…`, 637 B, field 21 = 32-byte BAL hash, field 22 = raw `0x01` slot_number) | 0 | 0 | ✅ ok |
| field 6 length 255 | **1** | 0 | error |
| ommers length 31 | **1** | 0 | error |
| noncanonical number | **1** | 1 | error |
| canonical 9-byte timestamp | **1** | 1 | ⚠️ **ok** |

⛔ **No `c=0` with `d ≠ 0`. No `c=0` with a SpecRef error.**

⇒ **Replace the second biconditional.** The honest statement is the stronger one: **`c = 0 ⇒ d = 0 ∧ _decode_header = .ok`**, with the `d`-failure arm **documented as vacuous under the call-site checker** rather than proved as if it covered failures.

⭐ **This is the outcome that was worth asking for.** A biconditional over an unsatisfiable right-hand side elaborates cleanly, looks two-directional, and proves nothing about the failure path — one of the vacuity shapes that has cost this project repeatedly.

## ⚠️ A correction on the way, recorded so it is not repeated

An earlier run reported **valid 23-field → SpecRef rejects**, which would have been a false accept. **It was an input-reader artifact** — host padding read beyond the declared 8-byte length prefix.

⛔ The premise offered for it was *"Amsterdam's Header is 21 fields."* **It is 23**; `bpo5` (previous fork) is 21, and `_decode_header` (`amsterdam/stateless.py:244-252`) tries `rlp.decode_to(Header)` **first**, falling back to `PreviousForkHeader` only on `DecodingError`. **Counting the dataclass fields in the pinned tree is what killed the false alarm.**

## Consequence worth naming

If `c = 0 ⇒ d = 0` and the decoder is only ever reached behind the checker, then ⭐ **the decoder's own failure path (status 1 epilogue) is unreachable in production.** That is not a defect — it is defence in depth — but it means:

1. **The bridge need not prove it**, and should not pretend to.
2. ⚠️ **It is unexercised code**, so its correctness is untested by any live path. If the checker is ever weakened or bypassed (see #12462), that epilogue becomes load-bearing **without having been verified**.

## Envelope row

The canonical 9-byte timestamp (`c=1, d=1`, SpecRef **ok**) is a **genuine false reject and already ratified as the envelope** — the u64 cap *is* "small timestamp" per #12451. **Record as envelope-excluded, not as a defect.**

**Comment by pirapira** [comment]
## Overnight status — where the bridge stands

**Local commit `54a32ed96`, unpushed** (branch held until the next spine segment is ready). Source-only, no generated artefacts.

### Settled by measurement

- ⛔ **Unrestricted decoder iff is FALSE** — a canonical 20-field list is accepted by `header_extended_decode` (`a0=0`) and rejected by `_decode_header` (*"Header needs 21 field(s)"*). Paired probes, each with its own ELF sha.
- ⭐ **Failure arm is VACUOUS under `c=0`.** Six constructions found no `c=0` with `d≠0` and no `c=0` with a SpecRef error. ⇒ The contract is the **stronger** `c = 0 ⇒ d = 0 ∧ _decode_header = .ok`, with the failure arm **documented as vacuous, not proved as if it covered failures.**
- ⭐ **No overlap with #12419**, established from addresses by both agents independently: the decoder (`0x8000af70`) drives `rlp_walk_init` `0x800046e0` / `rlp_walk_next` `0x800047b4` over FlatSAsm leaves; #12419 works `rlp_walk_next_shared` `0x800047ec` and `rlp_validate_payload` `0x800048bc` — the mutual CPS *inside* the list knot. **Names suggested composition; addresses refuted it.**
- **`walk_init_next_13/17` are pure CPS composition** over arbitrary `P`, `M_i`, `Q` and one shared `CodeReq` — they add no leaf semantics, so the spine need not be hand-built.

### Built

Six linked-site segment contracts — fields **8/9/10/11/17/18** at JAL offsets `+324/+364/+404/+444/+604/+644` — each with exact SUB/MV/JAL PCs, R/Q preserved, and ⭐ **an explicit `by decide` target-equality guard**, which makes every contract **self-invalidating on image drift** rather than silently proving something about a moved address. Build **completed**; `git diff --check` clean.

⭐ Those six are exactly the fields carrying **ratified envelope preconditions** (#12451) — 8/9/10/11 are the stated envelope, 17/18 are legitimately U64 — so the preconditions attach where the contracts sit.

### Remaining

Hash-copy sites (fields 0/3), field 15's U256 leaf, **the inter-call marshaling and branch contracts**, then composition. ⚠️ **The marshaling is now the risk surface**: leaves are cheap and isolated, but what is live in which register across each walker call is where a wrong assumption hides — the same class as the `+0x170`/`+0x194` geometry question that decided semantics earlier tonight.

### Two false alarms killed en route, recorded so they are not re-run

1. **"Valid 23-field rejected by SpecRef"** — an **input-reader artifact** (host padding read past the declared 8-byte length prefix), not a false accept. Rebuilt deterministically: 637 B, 23 items, `sha256 c67c5249…`, SpecRef `ok`.
2. ⛔ The premise offered for it — *"Amsterdam's Header is 21 fields"* — **is wrong.** Amsterdam is **23**, `bpo5` is **21**, and `_decode_header` tries the current fork **first**. Counting dataclass fields in the pinned tree settled it.

**Comment by pirapira** [comment]
## Walker call-site inventory — verified against the linked image, citable

⭐ **Evidence, not inference.** Recorded because a source-derived version of this list was wrong in this same routine before.

| | |
|---|---|
| ELF | `gen-out/regionmap/stateless_guest.elf`, `sha256 8462e7b3ebd807b0530ec23f6483659f78638c77fc7712191960a018a1c67086` |
| Symbol | `header_extended_decode = 0x8000af70` |
| Init | JAL at `+32` → `rlp_walk_init = 0x800046e0` |
| Next sites | **exactly 19**, at `+56, +120, +140, +160, +224, +244, +264, +284, +304, +344, +384, +424, +464, +484, +504, +524, +564, +584, +624` |
| Targets | **all 19 → `rlp_walk_next = 0x800047b4`** |

**`headerExtendedDecode_prog` and the linked image agree. No missing site, no extra site, no site aimed elsewhere.**

⚠️ **The 19-site set was initially derived from the `Program`, not from objdump** — disclosed by the author, then re-derived from the ELF above. That correction is the reason this row is trustworthy.

## Why this check was not ceremony

⛔ **In this exact routine, #12444's `Program` carried branch metadata stale by −8 across 32 local branches and ten JAL PCs while the emitted image was correct.** The stale immediate still encoded against the shifted site, so it surfaced as a geometry error rather than a wrong verdict — and trusting the `Program` there would have aimed a branch at `li a0, 0` and returned **success on a malformed item count**.

⭐ **And the asymmetry that made the count itself worth verifying**: each site contract carries a `by decide` target guard, which catches a wrong offset at any site that was **written**. ⛔ **It cannot catch a site that was never written** — there is no theorem at that address to fail. **The count is the one fact the guard mechanism cannot self-check.**

## Build

`lake build EvmAsm` **completed** (reported after process exit, not from a job count). Contracts landed: `rlp_walk_init` call site at `+32` (`223ce145f`) and 19 `field0..field18` next-site specializations (`371a5e08a`), each with exact `by decide` target/alignment/disjointness guards, arbitrary `Prest`/`Q`, caller R/Q preserved.

**Comment by pirapira** [comment]
## Branch and liveness inventory — from objdump on ELF `8462e7b3…`, not from source

### Control flow is structurally uniform

⭐ **Every non-loop branch in `header_extended_decode` targets the same failure epilogue `0x8000b208`**, with exactly three exceptions: two copy-loop backedges at `+108` (`0x8000afdc → +88`) and `+208` (`0x8000b044 → +192`), and the final success jump at `+660` (`0x8000b204 → +668`).

| site | status reg | branch | meaning |
|---|---|---|---|
| init return | `a2` | `+36 bnez` | failure; fallthrough `+40` marshals `x10`/`x11` then next |
| each `walk_next` return (×19) | `a1` | `bnez` at `+64,+128,+148,+168,+232,+252,+272,+292,+312,+352,+392,+432,+472,+492,+512,+532,+572,+592,+632` | failure; fallthrough continues |
| width checks | `a2` vs `t0` | `+68` (field 0), `+172` (field 3) | failure if ≠ 32 |
| U64 converter returns | `a1` | `+328,+368,+408,+448,+608,+648` | failure |
| U256 converter return | `a0` | `+552` | failure |

⇒ ⭐ **All skip segments except the two hash copies are the same `MV/MV/JAL/MV/BNE` pattern.** That is the parameterised-lemma opportunity: **one segment lemma over a field index, not nineteen hand-written ones.** The two 32-byte copy loops are the only genuine structural exceptions.

### ⛔ The trap: two registers carry different meanings at different points

| reg | denotes |
|---|---|
| `s3`/`x19` | cursor, across each call |
| `s1`/`x9` | end |
| `x18`/`s2` | output base |
| ⚠️ **`x12`** | walk length, **then** converter length, **then overwritten by the U256 output pointer** |
| ⚠️ **`x11`** | walk status, **then** converter length |

⛔ **`x11` and `x12` are reused for semantically different values along the routine.** This is the guest-edit trap this project keeps hitting — *a helper caching its input in a reused register is safe once and broken twice.* **A marshaling contract that names a register without saying what it denotes AT THAT POINT will be wrong at some other point and still elaborate.**

⇒ Each segment contract must state what `x11`/`x12` denote **at both ends of that segment**, not globally.

### Author is holding edits until this is factored honestly

⭐ Explicitly *"rather than assuming a stale register"* — the correct call. A marshaling segment that mis-models liveness does not produce a proof error; **it produces a proof about a different program.**

**Comment by pirapira** [comment]
## Continuation decision (maintainer, 2026-08-16): same agent, continue

**evm-asm3-codex retains #12457.** It built the linked-image inventory, the parameterised segment, and the composition audit — ⭐ **that context is what makes the remaining sites cheap, and handing them elsewhere would mean re-deriving the measurement.**

**Branch `codex/12346-validate-header` @ `e620925341b52744245411aac57064b4eb98194e`**, pushed and verified from `origin`. **Explicitly WIP** — remaining 18 sites and the full decoder spine are not established.

## Next steps, in order

1. **Instantiate the template at the seventeen remaining non-loop sites.** ⭐ Cheap because uniformity was **measured**: objdump shows every non-loop branch targets the same failure epilogue `0x8000b208`, and every skip segment except the two hash copies is the same `MV/MV/JAL/MV/BNE` shape. Only field index and offsets differ.
2. **The two 32-byte copy loops separately** — backedges at `+108` and `+208`, the structural exceptions the inventory flagged.
3. ⛔ **Per-site ownership check at each instantiation.** The parametric contracts are clean, but a **concrete `Q` at a call site is not covered by that result**. The condition is already concrete: frame `A` must exclude the core-owned set so `x12` is supplied exactly once. ⚠️ **`x12` is the risk atom** — walk length → converter length → overwritten by the U256 output pointer.
4. **The pair adapter**, with `c = 0` **produced by the call-site checker branch**, never taken as a free precondition.

⇒ Target theorem is the stronger form established by construction: **`c = 0 ⇒ d = 0 ∧ _decode_header = .ok`**, with the failure arm **documented as vacuous** rather than proved as if it covered failures.

## Standing checks

- ⛔ **`decide` guard on every site's JAL target** — makes each contract self-invalidating on image drift. #12444's `Program` was stale by −8 while the image was correct.
- ⛔ **Both #12464 directions at each composition**: no post atom absent from the pre, **and** no atom supplied twice by two participants. ⚠️ **A green build cannot detect either.**
- **Isolate segments; bound elaboration.** A run that is CPU-bound with flat memory and no output is spinning, not compiling.

⚠️ **This is not a merge-ready branch and should not be labelled as one.** The eighteen sites are the work; the template is the tool.

**Comment by pirapira** [comment]
## `c = 0` has a producer — measured at the branch targets, not assumed

The open design risk on the pair adapter was whether `c = 0` would end up a **free precondition**. If it had, the adapter theorem would elaborate cleanly, build green, be counted by the ledger, and prove the adapter correct **exactly on the inputs where the interesting case cannot arise** — the same shape removed from six `ChainValidate` families and four further consumers today.

**Answered from the emitted code by evm-asm3-codex:**

`c` is the decoder status returned in `x10`. `ValidateHeaderPair`'s two `header_extended_decode` `JAL`s at `+72` and `+112` are **each immediately followed by `BNE x10, x0`** to the failure epilogue (`+160` for the "this" site, `+52` from the parent site). ⇒ **the fall-through/success branch carries `x10 = 0` as a pure fact produced by the checker itself.**

**It is therefore not a free adapter precondition.** The adapter should **compose the `BNE` branch contract with the decoder result, preserving the failure arm** — rather than taking `c = 0` as a hypothesis.

⭐ Evidence is branch targets, which is the standard that has repeatedly overturned reasoning-from-structure here: an emission order is not a status map when the caller remaps, and addresses have refuted at least one plausible-sounding dependency claim this week.

⚠️ **Preserving the failure arm is load-bearing** — dropping it would not tighten the theorem, it would make it false, in the same way that deleting the awkward arm of a decode correspondence admits undecodable inputs that reach a status no arm matches.

### Sequencing

No ELF inventory taken yet: waiting for #12477 to land (it moves `.text` `0x53668 → 0x53b90`) so the rebase and objdump inventory are paid for once. The `+108`/`+208` copy loops and the adapter composition follow that.

**Comment by pirapira** [comment]
Adapter composition design (address-independent portion, before the post-12477 inventory):

1. Caller precondition P carries the decoder status in x10 together with the decoded-output/frame resources that ValidateHeaderPair needs. The success post must retain the decoded struct/output and frame resources; the failure post must retain the caller failure resources and the nonzero status.

2. The decoder premise is a cpsTripleWithin ending at the call-site branch PC, with x10 = status and the callee return-address fact for x1.

3. The call-site checker is the one-step BNE x10,x0, with explicit branch PC, failure target, offset, and CodeReq inclusion/union premises. Its fall-through produces the pure fact status = 0; this is not a free adapter precondition.

4. Compose the decoder triple with that BNE branch, preserving both posts: Q_fail with pure status ≠ 0 and Q_ok with pure status = 0. The failure arm is load-bearing, not optional; dropping it would make the theorem false by restricting it to successful inputs.

Address-independent and statable now: the caller resource shape P, the two posts Q_fail/Q_ok and their pure status clauses, and the fact that c is the decoder status in x10. Address-dependent and deferred until 12477 lands: the concrete branch/call PCs, offset equations, CodeReq union/inclusion, return-address values, and the full decoder frame/bytes premises from the linked ELF inventory.

Anti-vacuity note: a Lean check that regIs x10 0 holds for mkTestState 0 0 passed, but that covers only the x10 = 0 clause. It does not establish full adapter non-vacuity; the decoder-result, bytes/frame, fuel, return-address, and CodeReq premises still require a simultaneous concrete witness. Do not read the green one-clause check as full coverage.

**Comment by pirapira** [comment]
## Scope at `0443dbca2` — the "one bridge" framing is refuted a second time, now with the consumer premises measured

Scoped by codex2, no files edited.

### What exists

- `headerExtendedDecode_prog` is **174 `Instr`** at `GuestAddrs.header_extended_decode`, carrying **only** `headerExtendedDecodeFunction_eq_prog` plus length/reloc guards. `HeaderDecode.lean` states outright that it has no proofs.
- ⛔ **The sole machine theorem named by the five `.proven` registry rows is `header_extended_decode_u64_segment_spec_within` — a 12-byte SUB/MV/JAL segment adapter parameterised by an abstract callee `cpsTripleWithin`.** It does not cover the full decoder, the arity check, the 21/23 choice, the 20 RLP-walk calls, the u256 field, the output struct, or either status direction. Rows citing an adapter rather than a routine triple: the same shape as #12461's arms 2 and 4.
- `decode_header_inv` is a **one-way SpecRef success inversion** (successful `_decode_header` ⇒ list bytes, arity, field indexing, canonicality/width). **No machine premise, no converse.**
- The `HeaderExtractNumber`/`LogsBloom`/`ExtraData` bridges consume individual callee contracts plus `decode_header_inv`. ⭐ **None consumes `header_extended_decode`.**

### The three "waiting consumers" have different premises

1. **`validateHeaderRlpPair_prog`** — arity check, then `header_extended_decode` for child and parent, branching on status 1/2, then `validate_header`. Its call-site premises are ABI pointers/lengths/output structs plus **dynamic `status == 0` branches**, with no correspondence theorem.
2. **`block_verdict`** (`BlockVerdictFunction:93-96`) stores `bv_header_status`; `TopComposition` exposes only the generic `HeaderChainPhaseShape` (`∀ input, AdmissibleInput input → phase triple`) — **not a header-decode premise**.
3. **`statelessGuestInputDecode`** is the SSZ/schema/offset framing boundary; `runStatelessGuestFaithful` carries `deserialize_stateless_input input = .ok si` but **no `_decode_header` premise, and does not call `header_extended_decode` at all** — header validation is downstream.

⇒ **One full header bridge cannot directly serve all three boundaries.** The work is: a **full K39 machine triple/iff**, a **model tie consuming `decode_header_inv`**, and **separate adapters** for the summit/`ValidateHeaderPair` phase and for the K20 item/wrapper contracts.

### ⚠️ Correction to a claim I have been repeating

I have been describing this as *"one artifact, three waiting consumers — the highest-leverage thing to build next."* **The leverage is real; the "one artifact" part is not**, and this issue's own title already recorded that framing as refuted. The measurement above is the second refutation, and the first one with the consumer premises actually enumerated.

⭐ Also worth pinning: the production header decoder calls `rlp_walk_init`/`rlp_walk_next` plus strict u64/u256 — **not `rlp_list_nth_item`**. The strict wrapper tie `rlp_walk_next_shared_nonlist_strict_spec_within` requires alignment, cursor/end bounds, valid bytes, `budget ≥ 2` and a **non-list prefix**; the list arms remain untied, which is #12419's open front.

**Comment by pirapira** [comment]
## K39 inventory complete — and the blocker is **the RLP list arm**, the same one blocking #12419

Fresh audit by evm-asm3-codex at `b069bed3b` / ELF `029d4d9f…` (byte-identical to the corpus baseline, so main is still emission-neutral).

**Measured structure of `header_extended_decode` (`0x8000b498`):** arity check at `0x8000b750`, **common failure target** at `0x8000b730`, **19 `rlp_walk_next` calls** (plus one `rlp_walk_init` — reconciling with the "20 walk calls" in the earlier scope), **seven converters** (six U64 + one U256), success returning `a0 = 0`.

⭐ The cherry-picked walker and converter **site adapters compile**. The full top-level K39 triple does not, and the reason is precise:

> ⛔ **`RlpWalkNextStrictTie` proves only the non-list (`< 0xc0`) path and explicitly leaves list inputs untied.**

### ⭐⭐ Why this matters beyond #12457

**#12497 / #12419 is stalled on exactly the same thing.** Its two remaining `sorry` sites are `Body.lean:2725` — *the final list arm* — and `ItemsBody.lean:72`. And codex2's earlier scope on this issue already recorded that the strict wrapper tie `rlp_walk_next_shared_nonlist_strict_spec_within` requires a **non-list prefix**, with the list arms untied.

⇒ **one artifact blocks both**, and through them the stated priority:

```
RLP list arms untied
   ├── #12419 / #12497  (Body.lean:2725, the final list arm)
   └── #12457 K39 triple ──► #12346  ◄── current priority
                        └──► #12455 (two-sided summit)
```

⚠️ This changes what "unblock #12346" means. The arms (#12461) are all owned and progressing; **the decode bridge cannot complete until the list arm is tied**, and the list arm is on a stalled draft PR whose owner (fable) is stopped.

⇒ **the RLP list arm is the critical path**, not the decode bridge per se. Anyone assigned to #12457 arrives at it within an hour, as this audit did.

**Comment by pirapira** [comment]
## Anti-vacuity witness for the list arm — constructed **before** the proof

evm-asm3-codex, on `codex/12457-list-arm`. Recorded because this is the check that most often gets skipped and most often invalidates a whole family.

`nested_list_exact_fit_inhabited` in `RlpWalkNextStrictFuelModel.lean`, live bytes **`[0xc2, 0xc1, 0x00]`**:

- outer short list `0xc2` whose **exact** payload is the nonempty inner short list `c1 00`
- inner short list `0xc1` whose **exact** payload is item `00`
- every `SharedFuel` / `ValidateFuel` / `NestedFuel` binder constructed at windows `(0,3)`, `(1,3)`, `(2,3)` and terminal `(3,3)`

⭐ **The point is the exact fit.** Cursor plus declared length lands precisely on `endOff` at *both* levels, with **no slack byte** — which is the exact configuration that made the `hslack` premise **unsatisfiable** across six `ChainValidate` families (#12471/#12476) and in `k67WalkNextStep`, where glm removed its own copy for the same reason.

⇒ the recursive premise set is **inhabitable at depth 2 under exact fit**, so the fixpoint will close over something real rather than over an empty hypothesis.

### Why this ordering matters

⛔ A theorem proved from an uninhabitable hypothesis **elaborates cleanly, passes the axiom gate, and is counted by the ledger.** No build detects it. The only test that carries information is attempting the construction — and attempting it **before** the proof, so the answer cannot be rationalised afterwards.

⚠️ Still outstanding on this arm, and not implied by the above: `shared_list_recursive_continuation` (`89cde5827`) is a **structure-producing `def`** — a step function from a child contract to a parent contract at `S+60` with `steps = 6 + child.steps`. ⭐ Well-shaped, and the `cycleFuel` measure `2*(endOff − cursor)` is kept distinct from the machine step bound. ⛔ **But a combinator is not a closed recursion**: what remains is the fixpoint that applies it down to a base case, and confirmation that the resulting top contract carries **no** residual child-arm hypothesis. Until then the list arm is untied and this is a better-shaped residual rather than a discharge.

**Comment by pirapira** [comment]
Checkpoint 1 — pushed commit b13ef0210d3082a05ba9f8a71c15e462fb7e71c4 on codex/12457-list-arm. It contains actual_strict_walk_machine_induction_from_base; the focused machine module build completed successfully.

Checkpoint 2 — the combinator is shared_list_recursive_continuation in RlpWalkNextStrictFuel.lean. I freshly linked stateless_guest.elf from the current checkout; the link and 443-Program byte check passed. ELF SHA256: 029d4d9f07f9b118ba37b74d031ecbf8c0056b582faa52a7cf428352e6182c24. nm anchors rlp_walk_next_shared at 0x80004d14 and rlp_walk_next_nested at 0x80004d10. Linked riscv64 objdump then gives S+60 = 0x80004d50 (<rlp_walk_next_shared+0x3c>, the prefix BLTU) and S+84 = 0x80004d68 (<rlp_walk_next_shared+0x54>, the short/long length-prefix BLTU).

Those are two framings of the same seam, not a genuine mismatch: the parent contract starts at S+60, and the fixed six-instruction not-taken/list setup (S+60 through S+80) establishes the child precondition at S+84. The combinator is therefore true and directly applicable as a six-step bridge; it is not a false statement and needs no extra bridge hypothesis.

The base-aware fixpoint result carries no residual child-arm hypothesis. actual_strict_walk_machine_induction_from_base consumes the concrete zero-window base and an hstep whose IH supplies the smaller-index contracts; its conclusion is only the pair of sharedMachineIndexedFamily/knotBodyMachineIndexedFamily results for every fuel. shared_list_recursive_continuation is used to fill the positive step, but its child contract is not retained in the fixpoint result.

**Comment by pirapira** [comment]
## #12457 status at `b13ef0210` — what the reshape did and did not do

Consolidating today's measured state so it is not spread across chat checkpoints.

### Landed and independently verified

| commit | content | verified |
|---|---|---|
| `929aef847` | deletes the four unconsumed status/cont wrappers | pure deletion, 149 lines, **zero dangling refs tree-wide**; `routines=0 allowlist=0 witnesses=0` beforehand |
| `4e1b4bd36` | `validate_machine_contract_empty_base` | **no child-arm hypothesis** in the binders; premise set inhabitable (`bytes = []`, `base = 0`, `cursorOff = endOff = 0`); `hFacts` builds a real `emptyResult` so the base carries content |
| `e387ad807` | `validate_machine_indexed_family_zero` + docstring | docstring sits above the new disjunct and records the obligation below |
| `b13ef0210` | `actual_strict_walk_machine_induction_from_base` | statement sound, premises inhabitable |

### ⭐ The nested entry is settled, and it removes work

`objdump` on linked ELF `029d4d9f07f9b118ba37b74d031ecbf8c0056b582faa52a7cf428352e6182c24`, symbol-anchored:

- `rlp_walk_next_nested = 0x80004d10` → `0040006f` = **`jal zero, 0x80004d14 <rlp_walk_next_shared>`**
- `rlp_walk_next_shared = 0x80004d14`

One instruction, unconditional, **link register discarded** (`jal zero`, not `jal ra`) ⇒ no return address, no frame. `rlp_walk_next_nested` is a pure **alias entry** into the shared body: two distinct PC entry points, one body.

⚠️ I raised this as a possible structural defect — that "two families" might be one routine misdescribed. **It is not a defect: the Lean already models it exactly.** `RlpWalkNextStrictFuel.lean:290-294` defines `nestedMachineCode` as `CodeReq.singleton (nested ↦ .JAL .x0 …) ∪ sharedCode` — the trampoline plus the shared body, matching the artifact including the discarded link register. **Concern retracted.** The payoff is real anyway: nested contracts now derive from shared via `validate_nested_alias_indexed` at **+1 step**, so that family costs nothing.

### ⛔ Two things a green build cannot see, both recorded

1. **`validateResultFacts` gained an accepting disjunct** — `(cursorOff = endOff ∧ r.next = endOff ∧ r.len = 0)` as an alternative to the `ValidateK ∧ rlpItemDecodeStrictW` conjunction under `status = 0`. Guarded by `cursorOff = endOff`, so it cannot reach a non-empty window. Its ~16 consumers **transport** the proposition through `validateResultPost` and the status frames; **none unfolds it.** So they compile because they carry it, not because they handle the new arm. Safe today, **load-bearing the moment the step case or fixpoint destructures the status-zero facts.** Now stated in the docstring above the definition.
2. **`hitem` and `hK` were weakened** — `hitem` gained `cursorOff ≤ cursor`, `hK` gained `cursorOff < next`. These are fields the contract *provides*, so adding a hypothesis makes it give less; it was done to make the base inhabitable. `git grep` finds **no `.hitem` / `.hK` projections anywhere**, so the restriction has never been exercised. It first bites when the step case consumes them.

### ⛔ The blocker did not move — it was isolated

`actual_strict_walk_machine_induction_from_base` is a ten-line `Nat.strong_induction_on` wrapper: `by_cases fuel = 0`, `simpa … hbase`, else `exact hstep fuel _ ih`. **All content sits in `hstep`, which has no producer in the tree.** So "returns only the Shared/knot families, no child-arm premise in the result" holds *because the obligations moved into an unproven hypothesis*, not because anything was discharged. Legitimate plumbing; **not the step case landing.**

The chain now reads: `hstep` → a concrete `sharedDependentContinuation` → **`SharedListArmsFromValidateGoal`** (short/long CPS plus the `S+160` status continuation).

⇒ **That is the same unresolved goal this issue started on.** What today bought is a clean foundation and a single named hole in place of four unconsumed arm lemmas — real, and not the same as progress on the hard part. Stating it plainly so a stack of green checkpoints does not read as closure.

### Still open, unanswered

The `S+60` / `S+84` entry mismatch — `shared+0x3c` (prefix `BLTU`) vs `shared+0x54`. **Inside the shared body, so the entry aliasing above does not explain it.** Needed: which combinator by name, and whether the mismatch makes its statement **false** rather than merely awkward to apply. That verdict decides defect report vs refactor. ⛔ Do not bridge it with an added hypothesis — that converts a discharge into a domain restriction.

**Comment by pirapira** [comment]
### Direct SharedListArmsFromValidateGoal audit

The S+60/S+84 bridge is not the defect: `shared_list_recursive_continuation` uses `shared_list_arm_from_prefix` for the six fixed setup steps, and its S+84 post is exactly the child-arm pre; the linked ELF confirms this seam.

The first real producer is blocked one layer later. `SharedListArmsFromValidateGoal` (RlpWalkNextStrictFuelMachine.lean:636-650) ignores `_cursorOff`/`_endOff` and hard-codes its antecedent validator family at `sp = 0`, `raVal = 0`. It carries no `cursor/endPtr/depth/listBase` or caller-frame relation. The available short-arm combinator (`RlpWalkNextStrictFuelMachineArms.lean:94-108`) requires a validator proof pinned at `x1 = S+160`, `x5 = listBase`, `x12 = listBase+1`, `x10 = listBase+1`; `validateMachineContract_proof_pinned` requires the actual validator frame and window coordinates. The long arm has the analogous cursor/prefix/payload obligations.

Therefore the missing producer is the call-frame/window adapter plus the status-0/status-failure mapping into the requested `R`; it is not a false S+60/S+84 combinator. Adding those facts as a premise would turn the discharge into a domain restriction, so no hypothesis was added. The `validateResultFacts` empty-window disjunct and the currently unprojected `hitem`/`hK` fields remain the first consumers that will expose this boundary.

**Comment by pirapira** [comment]
## ⛔ Correction to my own earlier comment: `SharedListArmsFromValidateGoal` is not the terminal obligation

In [comment 5316501247](https://github.com/Verified-zkEVM/evm-asm/issues/12457#issuecomment-5316501247) I wrote that the chain reduces to `hstep` → `sharedDependentContinuation` → **`SharedListArmsFromValidateGoal`**, and called that "the same unresolved goal this issue opened on."

**That was derived from prose, not from the code, and it is wrong in a way that matters.** Measured at `b13ef0210`:

```
git grep -n 'SharedListArmsFromValidateGoal' -- 'EvmAsm/**' 'scripts/**'
  Machine.lean:636      def SharedListArmsFromValidateGoal        ← the definition
  Machine.lean:747      "...`SharedListArmsFromValidateGoal`. -/"  ← docstring
  Machine.lean:774      "...(`SharedListArmsFromValidateGoal`). -/" ← docstring
  MachineArms.lean:93   "...remains open under `...`. -/"          ← docstring
  MachineCont.lean:910  "...open under `...`. -/"                  ← docstring
```

⇒ **Zero code consumers. Four of the five references are comments.** No theorem takes it as a hypothesis; no theorem concludes it. It is a *named placeholder that four docstrings point at*, not an obligation anything depends on. "Existence is not use" — and here even the existence is only nominal.

## ⛔ And the definition does not state the real problem

`Machine.lean:636-650`:

- **`_cursorOff` and `_endOff` are underscore-prefixed and genuinely unused** — the body never mentions either. A goal about a window walk that cannot refer to any window position.
- **`sp` and `raVal` are hard-coded to `(0 : Word)`** in the antecedent `validateMachineIndexedFamily`.
- The conclusion supplies **no cursor, no `endPtr`, no `listBase`, no depth, and no frame relation** — its pre is only `regIs .x6 pfx ** regIs .x7 248 ** pure (…) ** P`.

Meanwhile the arm combinator that would actually be used, `shared_short_arm_validate_call` (`MachineArms.lean:94-108`), needs `hval` pinned at `x1 = S+160`, `x5 = listBase`, `x12 = listBase+1`, `x10 = listBase+1`. **None of that is expressible in the goal as written.**

⚠️ **Worst case, and it needs checking before anyone proves this:** an antecedent family at `sp = 0` may be **uninhabitable**, which would make the implication **vacuously true** — provable, kernel-clean, counted by the ledger, and saying nothing. This is precisely the failure mode a green build cannot detect, sitting in the definition that the surrounding prose identifies as the hard part.

**Before any attempt to discharge it: try to build a concrete inhabitant of its full antecedent** — every binder at once, real definitions, including the `sp = 0` family. If that cannot be done, that is the finding and it outranks any proof.

## What the real state is

- `hstep` in `actual_strict_walk_machine_induction_from_base` has **no producer**. That part stands.
- The producer needs a concrete `sharedDependentContinuation`, whose list-arm side must be stated **against the real validator call seam** — cursor, `endPtr`, `listBase`, depth, frame, and `x1 = S+160`.
- **That statement does not exist yet.** `SharedListArmsFromValidateGoal` is not it, and rewriting it is the work — not discharging it.

⇒ the honest summary is that the day's work removed scaffolding, proved an inhabitable base, freed the nested family, and **discovered that the named hard part was a placeholder that does not state the problem.** The last of those is worth more than the rest and is why it should not have been reported as "the same goal we started on."

Credit: this came from an agent auditing the goal directly instead of accepting my framing of it. I had repeated that framing four times today.

## Unchanged, and now closed

- `S+60`/`S+84`: **not a defect.** The bridge is `shared_list_recursive_continuation` = `shared_list_arm_from_prefix` (S+60→S+84) then `shared_list_arm_cps_under_validator` (S+84 → S+148/S+88). The combinator's post *is* the S+84 child pre; the six intervening instructions are the intended prefix/list setup, confirmed on the linked ELF. Composition seam, not falsity ⇒ refactor, not defect report.
- Nested aliasing: **not a defect**, already faithfully modelled (retracted above).

**Comment by pirapira** [comment]
### Additional contract-shape finding

`SharedListArmsFromValidateGoal` also has no semantic selector for the child call: it carries neither a `SharedFuel.list`/`PayloadStrictFuel` witness nor `payloadStart`/`payloadEnd`, and it does not relate `pfx` to the bytes/cursor. The ignored `_cursorOff`/`_endOff` cannot instantiate the child `validateMachineIndexedFamily` at the payload window. A real producer must pattern-match the parent `SharedFuel.list` (cursor < payloadStart ≤ payloadEnd ≤ outerEnd, with child `ValidateFuel` at `cycleFuel payloadStart payloadEnd`), then pass the concrete frame/window into the short/long arms and destructure `validateResultFacts` for the status continuation. This is the remaining adapter design, not an S+60/S+84 defect.

**Comment by pirapira** [comment]
### `SharedListArmsFromValidateGoal`: the remaining scope boundary

Measured in `EvmAsm/Codegen/Programs/RlpWalkNextStrictFuelMachine.lean:636-650` (no new build or proof attempt):

1. **The current goal does not expose the real call frame.** `_cursorOff` and `_endOff` are accepted but unused, while the antecedent hard-codes `sp = 0` and `raVal = 0` in `validateMachineIndexedFamily`. The conclusion therefore cannot state the caller’s cursor/end window, list base, depth, or frame relation.

2. **There is no semantic selector for the child call.** The proposition contains no `SharedFuel.list`/`PayloadStrictFuel` witness, no `payloadStart` or `payloadEnd`, and no relation tying `pfx` to the byte loaded at the current cursor. Exposing real `sp` and `raVal` alone would still leave no child window with which to instantiate `validateMachineIndexedFamily`.

3. **Inhabitability at `sp = 0` is currently unknown, not established.** I have not constructed an inhabitant of the full antecedent as written, and the existing artefacts do not prove either inhabitation or impossibility. Thus vacuity remains a live alternative: if no complete `validateMachineIndexedFamily` can be constructed with `sp = 0`, `raVal = 0` and all its static/frame obligations, the implication is vacuously true and says nothing about the list arm. The deciding check is exactly that concrete construction (all binders, including the nonempty machine contract), not a successful elaboration of the implication.

4. **What a real producer must do.** It must pattern-match the parent `SharedFuel.list` witness, obtaining
   `cursor < payloadStart ≤ payloadEnd ≤ outerEnd` and `outerEnd ≤ bytes.length`, together with child `ValidateFuel (cycleFuel payloadStart payloadEnd) payloadStart payloadEnd`. It must then establish the machine byte-load relation for `pfx` at the current cursor and derive the short/long selector (`pfx < 248` versus `¬ pfx < 248`) before applying the arm contracts.

5. **Required register pins.** For `shared_short_arm_validate_call` (`RlpWalkNextStrictFuelMachineArms.lean:94-108`), the validator proof must be pinned at `x1 = S + 160`, `x5 = listBase`, `x12 = listBase + 1`, and `x10 = listBase + 1`; these are the pins required by the existing arm lemma. The long arm has the analogous concrete cursor/prefix/payload pins.

6. **Effect on the existing arm lemmas.** The corrected goal is a restatement at the real call seam, not a reason to discard the arm lemmas. The existing short/long call and continuation lemmas remain the reusable machinery, but the current proposition cannot feed them: a concrete frame/window adapter and the status-to-`R` mapping must be made explicit (including the empty-window status-zero case). This is an adapter/design gap, not evidence that the arm semantics are false.

The honest status is therefore: the named `SharedListArmsFromValidateGoal` placeholder does not state the problem, and its `sp = 0` antecedent still needs a concrete inhabitation check before anyone treats it as a meaningful proof target.

**Comment by pirapira** [comment]
### sp=0 inhabitability check: the antecedent is inhabited

I attempted the concrete construction requested, using the actual definitions (not a paraphrase), with `LAKE_ARTIFACT_CACHE=false lake env lean`. The focused example compiled with exit 0:

```lean
example :
    (0 : Nat) < 1 ∧
      validateMachineIndexedFamily
        ([] : List (BitVec 8)) (0 : Word) 0
        (0 : Word) (0 : Word) (0 : Word) validateCR empAssertion 0 := by
  constructor
  · decide
  · exact validate_machine_indexed_family_zero
```

This is a complete `SharedListArmsFromValidateGoal` antecedent witness at:

- `bytes = []`, `base = 0`, `floor = 0`;
- `parentFuel = 1`, `childFuel = 0`;
- `sp = 0`, `raVal = 0`, `exit_ = 0`;
- `wholeCode = validateCR`, `P = empAssertion`.

`validate_machine_indexed_family_zero` is not a shallow proposition shortcut: it constructs the full `Nonempty (ValidateMachineContract ...)`. For every window admitted by `fuel = cycleFuel cursorOff endOff` and `cursorOff ≤ endOff`, the zero-fuel equations force `cursorOff = endOff`; the empty-byte window discharges alignment, bounds, byte-validity, `exit_ = raVal &&& ~~~1`, `empAssertion.pcFree`, and the identity `validateCR` subcode relation. The resulting base contract supplies the real empty-result post and frame obligations.

**Conclusion:** the `sp = 0` antecedent is inhabitable. The current implication is therefore not vacuously true on that account; it is a meaningful but under-specified goal. The rewrite still needs the real frame/window/semantic-selector adapter described above, while the existing short/long arm lemmas remain reusable.

**Comment by pirapira** [comment]
## ⚠️ Sharpening the inhabitability result: non-vacuous at the degenerate point, unknown where the goal is about

The construction in [comment 5316944878](https://github.com/Verified-zkEVM/evm-asm/issues/12457#issuecomment-5316944878) is real and I accept it — the Lean is quoted verbatim, it uses actual definitions, and it compiled under `LAKE_ARTIFACT_CACHE=false`. Credit for producing a witness rather than an argument.

⛔ **But its conclusion — "a meaningful but under-specified goal" — is stronger than the witness supports**, and the witness itself shows why:

```lean
bytes = []      base = 0      floor = 0
parentFuel = 1  childFuel = 0
sp = 0          raVal = 0     exit_ = 0
```

discharged by `exact validate_machine_indexed_family_zero`.

That is **the degenerate point**: the empty window at zero child fuel, satisfying `childFuel < parentFuel` as `0 < 1`, where the child family is the empty base landed earlier today and **no list is walked at all**.

`SharedListArmsFromValidateGoal` exists to state the **list arm** — a non-empty payload, a child window with `payloadStart < payloadEnd`, and therefore `childFuel > 0`. None of that is exercised by this witness.

⇒ the accurate status is:

| | |
|---|---|
| **Vacuous in the strict logical sense** | ⛔ No — the antecedent is inhabited. Settled. |
| **Has content at `childFuel = 0`, empty window** | ✅ Yes, demonstrated. |
| **Has content at any instance the goal is ABOUT** (`childFuel > 0`, non-empty bytes) | ⚠️ **Unknown.** Not yet attempted. |

An implication whose antecedent turns out to be satisfiable *only* at `childFuel = 0` would be **technically non-vacuous and practically empty** — true on the empty window, silent about every list. That would be a serious finding, and it is not ruled out by the witness above.

⚠️ This distinction has bitten this project before: a `decide`-green anti-vacuity witness that paraphrased two of eight binders and violated one of its own premises. **Non-vacuous is not the same as meaningful**, and the discriminator is whether the witness lands inside the intended domain or on its boundary.

## The check that settles it

The same construction at **`childFuel > 0` with non-empty `bytes`** — the smallest real list available (e.g. the `[0xC2, 0xC1, 0x00]` nested pair already used successfully for `nested_list_exact_fit_inhabited`), with `sp = 0`, `raVal = 0`, and every static and frame obligation discharged. Requested; in flight.

Three outcomes, all results:

1. **It builds** ⇒ the goal is genuinely under-specified, the rewrite is a strengthening, and the conclusion above becomes supported rather than assumed.
2. **It fails on a frame or alignment obligation that `sp = 0` cannot satisfy once real bytes and positive fuel are present** ⇒ the goal is **effectively vacuous**, and the rewrite's justification changes from *improving a statement* to *replacing an empty one*.
3. **Undecided** ⇒ report `UNKNOWN` with the specific obligation. ⛔ A failed construction is **not** a proof of impossibility — the same distinction drawn correctly in point 3 of the scope comment, and it applies in this direction too.

Nothing above changes the other conclusions: the missing semantic selector, the ignored `_cursorOff`/`_endOff`, the hard-coded `sp`/`raVal`, and point 6's finding that the arm lemmas remain reusable all stand.

**Comment by pirapira** [comment]
### Correction: positive list instance remains unknown

The zero-fuel witness above proves only **logical non-vacuity at the degenerate base**. It does not show that `SharedListArmsFromValidateGoal` has content on the list arm it is intended to describe.

I attempted the smallest real list, `bytes = [0xc1, 0x00]` (a one-item short list), with `base = 0`, `floor = 0`, `cursorOff = 0`, `endOff = 2`, hence `cycleFuel = 4`, and `sp = raVal = 0`, `P = empAssertion`, `wholeCode = validateCR`. The family reduces to the concrete target

```
Nonempty (ValidateMachineContract [0xc1, 0x00] 0 0 4 0 2 0 0 0 validateCR empAssertion)
```

The scalar/frame fields discharge (base alignment, window/bounds, exit relation, `pcFree`, and the `validateCR` subcode relation). The first unresolved contract field is the genuine positive-fuel machine obligation:

```
hshared : ∀ k < 4,
  Nonempty (IndexedCpsContract k
    (GuestAddrs.rlp_walk_next_shared : Word) (validateEntry + 40)
    RlpWalkNextStrictTie.sharedCode ... )
```

`hnested` is the next analogous obligation. No frame or alignment conjunct became unsatisfiable; the attempt simply reaches the as-yet-unproduced positive shared/nested CPS contracts. Therefore the honest status is **UNKNOWN at every intended non-empty list instance**: not effectively vacuous, but not yet shown to carry a positive-fuel machine witness either.

The scope is consequently narrower than the earlier headline:

- `childFuel = 0` is inhabited, so the implication is not vacuous in the strict logical sense;
- positive list content (`childFuel > 0`) is still unclassified because the first missing producer is `hshared` (then `hnested`), not an unsatisfiable `sp = 0` frame obligation.

This is the deciding boundary for the eventual rewrite; a positive `IndexedCpsContract` producer is still required before calling the goal meaningfully under-specified on list inputs.

**Comment by pirapira** [comment]
## Resolution: the vacuity question cannot be settled by standalone construction — and that is the answer

Outcome of the positive-list attempt: **`UNKNOWN`**, with `bytes = [0xC1, 0x00]`, `cursor = 0`, `endOff = 2`, `fuel = cycleFuel = 4`, `sp = raVal = 0`. All scalar and frame fields discharged — alignment, bounds, exit relation, `pcFree`, subcode relation. **First unresolved field:**

    hshared : ∀ k < 4, Nonempty (IndexedCpsContract k … sharedCode …)

⭐ **That is not a wall, it is the explanation.** The antecedent at positive fuel requires the shared indexed family **at every smaller index**. So it is *not independently constructible*: it can only be satisfied relative to something that supplies the smaller-index families.

And that is exactly the shape `hstep` receives. In `actual_strict_walk_machine_induction_from_base`:

    hstep : ∀ fuel, 0 < fuel →
      (∀ k, k < fuel → sharedMachineIndexedFamily … k ∧ knotBodyMachineIndexedFamily … k) →
      …

⇒ **the premise the standalone attempt cannot build is precisely what the induction hands over for free.**

## Revised status — a fourth outcome none of my three covered

| | |
|---|---|
| Strictly vacuous (antecedent uninhabitable) | ⛔ **Ruled out** — inhabited at the degenerate point, and inhabited at positive fuel *in the context where it is consumed* |
| Effectively vacuous (content only on the empty window) | ⛔ **Ruled out** — the positive-fuel obstruction is the `ih` premise, not an unsatisfiable frame obligation |
| Under-specified | ✅ **Stands** — missing semantic selector, ignored `_cursorOff`/`_endOff`, hard-coded `sp`/`raVal` |
| Usable standalone | ⛔ **No** — by construction, not by defect |

## ⛔ My requested check was the wrong instrument

I asked for a standalone inhabitant of the antecedent. **That instrument cannot answer the vacuity question for this goal**, because the antecedent is only ever available inside the induction. Its failure told us about the *instrument*, not about the goal — and I would have concluded "effectively vacuous" from a bare "could not build it."

⭐ **What made that error catchable was the report naming the specific failing field rather than delivering a verdict.** A verdict would have propagated a false finding into this issue and into the rewrite's justification.

**The correct anti-vacuity check for this goal** is an inhabitant of the whole `hstep` obligation with `ih` in scope — not of the antecedent in isolation. That check is worth running before the rewrite is trusted, and it is a different and larger construction than the one attempted here.

## Unchanged

The rewrite is still needed and its justification is unaffected: the goal must be stated at the real call seam with the semantic selector (`SharedFuel.list` witness, `payloadStart`/`payloadEnd`, the `pfx`↔`bytes` relation) and the register pins `x1 = S+160`, `x5 = listBase`, `x12 = listBase+1`, `x10 = listBase+1`. The short/long arm lemmas remain reusable. See the scope comment above.

**Comment by pirapira** [comment]
## Corrected `SharedListArmsFromValidateGoal` call-seam statement

Pushed on `codex/12457-list-arm` at `751c4c308` (focused `LAKE_ARTIFACT_CACHE=false lake env lean EvmAsm/Codegen/Programs/RlpWalkNextStrictFuelMachine.lean` and its importing `...MachineCont.lean` both complete; no proof attempt).

The placeholder is now a real call-seam goal rather than an implication over hard-coded `sp = 0`, `raVal = 0` and an unindexed child fuel:

- `SharedListSelection` carries `cursor < payloadStart ≤ payloadEnd ≤ outerEnd`, `outerEnd ≤ bytes.length`, and `ValidateFuel bytes (cycleFuel payloadStart payloadEnd) payloadStart payloadEnd`, with `parentFuel = cycleFuel cursor end`; `toSharedFuel` constructs the corresponding `SharedFuel.list` witness.
- `SharedListArmInputs` carries the machine prefix-byte relation at the current cursor, the list/depth branch facts, `listBase = base + cursor`, `endPtr = base + end`, alignment/overflow/byte-validity, `P.pcFree`, the `validateCR` code-subset fact, and a genuine `sp` child family at `cycleFuel payloadStart payloadEnd`. The child validator is pinned to `x1 = S+160` and exit `(S+160) &&& ~~~1`; the caller's `raVal` remains a separate genuine saved return address.
- The strict child-index decrease is not assumed: `shared_list_edge_decreases` consumes the selector's cursor/payload bounds. This is the exact fact the `hstep` IH must supply after selecting the list constructor.
- `sharedListValidateCallPre` records the existing short-arm pins `x1=S+160`, `x5=listBase`, `x12=listBase+1`, `x10=listBase+1`; the long arm's cursor/prefix pins remain analogous. The conclusion retains the full `S+148` short and `S+88` long frame shapes, with `pfx < 248` / `¬ pfx < 248` selectors.

The remaining adapter work is therefore explicit: project the `hstep` IH into `SharedListArmInputs`, instantiate the child validator at the selected payload window, derive the strict decrease, and then feed the existing `shared_short_arm_validate_call` / long-arm combinators. The status-to-`R` continuation is intentionally not proved by this statement.

**Comment by pirapira** [comment]
Long-arm register classification (linked artifact, not source text)

Artifact: `gen-out/12457-current/stateless_guest.elf`  
ELF sha256: `029d4d9f07f9b118ba37b74d031ecbf8c0056b582faa52a7cf428352e6182c24`  
HEAD: `751c4c308eb7961cee33d5b42f0b6fa8a2934dc5`

The shared entry is `S = rlp_walk_next_shared = 0x80004d14`; the long arm begins at `S+0x58 = 0x80004d6c` after the not-taken `BLTU` at `S+0x54 = 0x80004d68`.

| register | classification at the long arm | linked instruction / address |
| --- | --- | --- |
| `x6` (`pfx`) | MACHINE-ESTABLISHED | `LBU t1,0(t0)` at `0x80004d48` (`S+0x34`) |
| `x5` (`listBase`) | MACHINE-ESTABLISHED | `LD t0,8(sp)` at `0x80004d44` (`S+0x30`) |
| `x7` | MACHINE-ESTABLISHED by setup, not a required input pin | `LI t2,247` at `0x80004d6c` (`S+0x58`); the preceding classifier writes `248` at `0x80004d64` (`S+0x50`) for the `BLTU`. The long preamble therefore deliberately accepts `old7` as a FREE FRAME VALUE and overwrites it to `247`; it does not require the caller to provide `247`. |
| `x28` (`oldRem`) | FREE FRAME VALUE at `S+0x58`; then MACHINE-ESTABLISHED | `SUB t3,t1,t2` at `0x80004d70` (`S+0x5c`) sets `pfx-247` |
| `x13` (`old13`) | FREE FRAME VALUE at `S+0x58`; then MACHINE-ESTABLISHED | `MV a3,t3` at `0x80004d74` (`S+0x60`) |
| `x29` (`old29`) | FREE FRAME VALUE at `S+0x58`; then MACHINE-ESTABLISHED | `ADDI t4,t0,1` at `0x80004d78` (`S+0x64`) |
| `x30` (`oldAcc`) | FREE FRAME VALUE at `S+0x58`; then MACHINE-ESTABLISHED | `LI t5,0` at `0x80004d7c` (`S+0x68`) |
| `x12` (`oldOut`) | FREE FRAME VALUE through the prefix loop; then MACHINE-ESTABLISHED | `ADD a2,t0,a3` at `0x80004d9c` (`S+0x88`) followed by `ADDI a2,a2,1` at `0x80004da0` (`S+0x8c`) |
| `x1` (`raVal`) | FREE FRAME VALUE for the arm adapter; not read by the long setup and replaced by the validator `JAL` return protocol | validator call at `0x80004db0` (`S+0x9c`) writes its own return PC; the shared epilogue later reloads saved `ra` at `0x80004dd8` |

Answer to the `x7` question: the machine does establish `x7=247` as the first long-arm instruction, and the long-arm setup lemma does not require `old7=247`—it establishes that value itself. Thus the rewritten long goal is not over-constrained and does not need an added premise. The short and long sides are symmetric in this respect: machine setup, rather than a caller premise, supplies the concrete validator pins.

**Comment by pirapira** [comment]
#12457 adapter boundary (checkpoint after 751c4c308)

The rewritten `SharedListArmsFromValidateGoal` is the correct call-seam goal, but wiring it into the mutual induction requires two adapters at opposite ends. I checked the declarations and textual consumers on the branch; these are not interchangeable and I will not hide either gap by adding a premise to the goal.

## A. `sharedCyclePre` -> the list-arm goal / `sharedDependentContinuation`

**Source.** `sharedCyclePre` (`EvmAsm/Codegen/Programs/RlpWalkNextStrictFuel.lean:150-161`) is the actual entry assertion for `rlp_walk_next_shared`. The list goal (`RlpWalkNextStrictFuelMachine.lean:724-754`) consumes one `SharedListArmInputs` record (selector/child `ValidateFuel`, loaded prefix and list/depth facts, pointer relations, code relation, and the smaller `validateMachineIndexedFamily`) and produces the short `S+148` and long `S+88` CPS triples to `R`. The induction contract ultimately requires `sharedDependentContinuation` (`RlpWalkNextStrictFuel.lean:241-254`), namely a full `sharedCyclePre -> cpsDepPost post` proof at `validateEntry+40`, every `post a -> R` continuation, and a concrete `sharedContinuationOutput` witness.

**Required target.** A new machine/frame adapter must execute the entry preamble and branch from `sharedCyclePre`, materialise the corresponding `SharedListArmInputs` at the list call seam, apply the goal, and package the result as the first conjunct of `sharedDependentContinuation` (including its concrete output witness). This is not just an assertion implication: it must establish the CPS path and the selector/child relation at the machine seam.

**What is close.** `sharedListValidateCallPre` (`RlpWalkNextStrictFuelMachine.lean:672-680`) names the validator-call pins, and the existing short/long setup and call lemmas are the local pieces. However, `sharedListValidateCallPre` has exactly one textual occurrence (its own definition), and `SharedListArmsFromValidateGoal` has no code consumer (the other occurrences are docstrings). Neither is currently an adapter from `sharedCyclePre`, nor does either produce `sharedContinuationOutput`.

**Status.** This is genuinely new construction. The tree does not currently establish the branch setup, selector-to-`SharedListArmInputs` package, or a full `sharedCyclePre` execution/output witness. It cannot be built from the present facts without a new machine/frame theorem; adding those facts as a premise to `SharedListArmsFromValidateGoal` would be the premise trap, not a solution.

## B. `validateResultPost` -> the chosen continuation post `R`

**Source.** The validator returns `validateResultPost` inside `validateCyclePost` (`RlpWalkNextStrictFuel.lean:196-208`, with `validateResultPost` defined in `RlpWalkNextStrictFuelContracts.lean:1056`). At the caller side the desired input is `sharedValidateCallerAmbient ** validateResultPost` (plus `validateCallerSlack`/preserved resources when the frame is retained), and the required target is `R` after the `S+160` depth/status code, for every result `r` in the dependent continuation.

**What is close.** The structural bridge already exists:

* `sharedAfterValidatePre_of_validate_return` (`RlpWalkNextStrictFuelMachineCont.lean:439-456`) maps caller ambient plus `validateResultPost` to `sharedAfterValidatePre`.
* `shared_after_validate_cont_from_result` (`:461-497`) consumes that framed result plus per-result `hsucc` and `hfail` implications and produces the `S+160 -> raVal &&& ~~~1` CPS triple to `R`.
* `shared_after_validate_cont_from_result_frame_slack` (`:501-536`) preserves validator scratch, and `validateCyclePost_to_callerAmbient` (`:912-982`) / `validate_machine_proof_post_to_ambient` (`:984-1010`) package a validator cycle post into the caller-shaped dependent post.
* `shared_after_validate_cont_family` (`:308-337`) is the uniform family form over `r`, but it has no caller in the tree; the two result bridges above are its only usable ingredients today.

**Required target.** Instantiate those structural bridges for the selected `post` and `R`, supplying `hsucc` and `hfail` for every `ValidateResult`, then expose the resulting `∀ r` continuation required by `sharedDependentContinuation`.

**Status.** The generic mechanics are already proven, so this is a restatement/instantiation only at the structural level. The end-to-end adapter is still new: no current theorem establishes the caller-specific `hsucc`/`hfail` implications for the chosen `R` (nor selects the concrete dependent `post` and output witness). Therefore it cannot be completed from the current tree without that missing fact about the chosen continuation post. I will not manufacture it by weakening `validateResultPost` or by treating the uncalled family theorem as evidence of wiring.

## Decision

Adapter A is the better-founded next construction target only after the missing entry-to-call-seam machine fact is stated; adapter B can then be instantiated once the actual `R` and its two status-arm implications are available. Neither adapter is currently a completed theorem, and neither gap justifies widening the call-seam goal.

**Comment by pirapira** [comment]
Dispatching to **evm-asm3-codex** (free after #12579 landed arms 8–10 of #12461).

**Premise re-verified at `origin/main` `1600b2e8f` before assigning** — it is live and exactly as recorded:

`EvmAsm/Codegen/Programs/RlpWalkNextStrictFuelMachine.lean:388`

```lean
def SharedListArmsFromValidateGoal
    (bytes : List (BitVec 8)) (base : Word) (floor parentFuel childFuel : Nat)
    (_cursorOff _endOff : Nat) (pfx exit_ : Word) (P R : Assertion) : Prop :=
  childFuel < parentFuel →
  validateMachineIndexedFamily bytes base floor
    (0 : Word) (0 : Word) exit_ validateCR P childFuel → …
```

- **`_cursorOff` and `_endOff` are accepted and never used** — the leading underscores are the compiler confirming it.
- **`sp` and `raVal` are hard-coded to `(0 : Word) (0 : Word)`** at the `validateMachineIndexedFamily` application, rather than threaded from the caller.

⇒ The goal does not state the problem it is named for. Anything proved against it is proved against a shape the real call seam does not have.

**Why this is now the top item.** With #12579 (`4699853d0`) labelled, **all four arms of #12461 are in flight** — arm 2 (#12577), arm 4 (#12567), arm 11 (#12575), arms 8–10 (#12579). Once they merge, **#12346's whole-routine iff is blocked on this decode bridge alone.**

**Next action: rewrite the goal at the real call seam** — thread `cursorOff`/`endOff` through instead of discarding them, and take `sp`/`raVal` from the caller instead of pinning them to zero.

⛔ **Standing checks, and the first one is the point of the task:**

- **Before proving anything against the rewritten goal, build a concrete inhabitant of its full premise set** — every binder at once, real definitions. The current goal's defect is precisely that nobody did this.
- The bridge's three consumers have **disjoint premises** (dynamic `status==0` branches / generic `HeaderChainPhaseShape` / `deserialize = .ok` with no `_decode_header` premise). A single rewritten goal may not serve all three — if it cannot, say so and name which consumer each variant serves rather than widening one goal to cover all.
- Addresses from the **linked disassembly**, never from source or `Program` metadata.
- ⛔ A green build cannot detect a post owning a register the pre lacks, an atom supplied twice, or a theorem proved from an uninhabitable hypothesis.

**Comment by pirapira** [comment]
## Premise check: the placeholder is **not** harmless — measured, not argued (2026-08-18)

evm-asm3-codex, branch `codex/12457-list-arm` @ `751c4c308`. Recording because the check was designed to be able to **refute this issue**, and did not.

**The test.** Build a concrete inhabitant of the rewritten goal's full premise set, then substitute the old goal's zeros back in and ask whether it is still satisfiable. A "yes" would have meant the rewrite changes nothing provable, the placeholder was harmless, and this issue was wrong as filed.

**Answer: NO.**

Under the old goal the required child premise is

```
validateMachineIndexedFamily dBytes dBase dFloor (0 : Word) (0 : Word) exit validateCR P childFuel
```

while the constructed `hchild` is a **distinct positive family** at `sp = 0x7000`, `raVal = S+160` with masked exit — and `cursorOff`/`endOff` are absent from the old goal entirely. There is no definitional path between them. The two goals demand different objects.

**The discriminating witness** (`/tmp/12457_shared_list_discriminating.lean`, uncached `lake env lean` pass): `dBytes = [0xc2, 0xc1, 0x00]`, `cursorOff = 1`, `endOff = 3`, payload window `[2,3)` strictly inside the outer window, `pfx = 0xc1`, `listBase = base+1`, `base = INPUT_MEM_START`, `sp = 0x7000`, `raVal = 0x9000`, `exit = masked raVal`, `depth = 1`. The positive `ValidateFuel` child comes from `nested_list_exact_fit_inhabited` rather than being assumed.

⚠️ **Why the first inhabitant did not count**, recorded because the trap is subtle and general: the initial witness was `bytes = [0xc0]`, `cursorOff = 0`, at the degenerate boundary. It compiles and it is non-vacuous — but it is **satisfiable under the old placeholder goal too**, so it cannot distinguish the rewritten goal from the one it replaces. ⭐ *An inhabitant that cannot fail under the thing you are testing is not evidence about it.* The defect was not that the witness was small; it was that it was blind to the change. Both witnesses are worth keeping — the boundary case as a second case, the nested one as the discriminating one.

**Consumer split — independently re-confirmed disjoint.** One rewritten goal cannot serve all three:

1. `validateHeaderRlpPair` — the two decoder call-site success branches produce `c = 0` via the immediate `BNE` fall-through. A pair-boundary adapter can consume that **dynamic** status fact, but must retain the failure epilogue.
2. `block_verdict` / `TopComposition` — exposes only a generic `HeaderChainPhaseShape` (∀ admissible input, phase triple), with **no decoder premise**. Needs its own phase adapter.
3. The `deserialize = .ok` consumer — no `_decode_header` premise and no call to the routine.

⇒ **Per-consumer adapters, not a wider goal.** A goal wide enough for three disjoint consumers usually constrains none of them.

**Open:** the author noted the construction ran "as far as the real induction boundary allows" — which binder could not be inhabited concretely, and why, is still to be recorded here.

**Comment by pirapira** [comment]
**Witnesses pushed and the open boundary named** — `codex/12457-list-arm` @ `679ef5962`.

Verified at the remote rather than from the report: `EvmAsm/Codegen/Programs/RlpWalkNextStrictFuelAntiVacuity.lean` (173 lines) carries both `shared_list_boundary_inhabited` and `shared_list_discriminating_inhabited`, and it is imported at `EvmAsm/Codegen/Programs/Imports.lean:81` — so it is **elaborated, not orphaned**. For an anti-vacuity witness, being elaborated *is* the relevant sense of "consumed": if either construction stops inhabiting, the build says so.

**The hedge, resolved.** "As far as the real induction boundary allows" names exactly one binder: **`hchild`**, the positive `validateMachineIndexedFamily`. That is now recorded rather than left as atmosphere — the earlier OPEN line above is closed by this.

⭐ Net position on this issue: the premise is **validated by a test that could have refuted it**, the discriminating witness is on a branch instead of in a temp directory, the one place the construction stops is named, and the consumer analysis says **per-consumer adapters, not a wider goal**. The rewrite itself is not done — that is the next session's work — but nothing here rests on an unexamined claim.

**Comment by pirapira** [comment]
Dispatching to **k3** (free after #12602). ⭐ **This is now the sole structural blocker on #12346**, which the maintainer wants moving this session.

**Premise re-verified at `origin/main` `d8ecb40a1`** — unchanged from when this was filed. `EvmAsm/Codegen/Programs/RlpWalkNextStrictFuelMachine.lean:388`:

```lean
def SharedListArmsFromValidateGoal
    (bytes : List (BitVec 8)) (base : Word) (floor parentFuel childFuel : Nat)
    (_cursorOff _endOff : Nat) (pfx exit_ : Word) (P R : Assertion) : Prop :=
  childFuel < parentFuel →
  validateMachineIndexedFamily bytes base floor
    (0 : Word) (0 : Word) exit_ validateCR P childFuel → …
```

`_cursorOff`/`_endOff` accepted and never used; `sp`/`raVal` pinned to zero.

**Banked already — do not redo any of it.** Branch `codex/12457-list-arm` at `679ef5962` (⚠️ **238 commits behind `main`; rebase first**), carrying `EvmAsm/Codegen/Programs/RlpWalkNextStrictFuelAntiVacuity.lean` with both witnesses, imported at `Programs/Imports.lean:81` so it is elaborated rather than orphaned:

- `shared_list_boundary_inhabited` — the `[0xc0]`, `cursorOff = 0` degenerate case, kept as a second case.
- `shared_list_discriminating_inhabited` — `dBytes = [0xc2,0xc1,0x00]`, `cursorOff = 1`, `endOff = 3`, payload window `[2,3)` strictly inside the outer window, `pfx = 0xc1`, `listBase = base+1`, **real caller `sp = 0x7000` / `raVal = 0x9000`**, `exit` = masked `raVal`, depth 1.

⭐ **The premise was validated by a test built to refute it.** Substituting the old goal's zeros back in, the inhabitant is **not** satisfiable: the old goal demands a child family at `sp = 0`, `raVal = 0` with `cursorOff`/`endOff` absent, and no definitional path connects that to the constructed `hchild`. So the placeholder is **not** harmless.

⚠️ **Named boundary:** `hchild`, the positive `validateMachineIndexedFamily`, is where the construction stops.

**Next step: the consumer-1 pair-boundary adapter.** ⛔ Per-consumer, not one wider goal — the three consumers have **disjoint** premises:

| consumer | premise | note |
|---|---|---|
| 1. `validateHeaderRlpPair` | dynamic `c = 0` via the immediate `BNE` fall-through | ⚠️ **the adapter must retain the failure epilogue** |
| 2. `block_verdict` / `TopComposition` | generic `HeaderChainPhaseShape`, **no decoder premise** | needs its own phase adapter |
| 3. `deserialize = .ok` | no `_decode_header` premise, **never calls the routine** | |

⇒ *A goal wide enough for three disjoint consumers usually constrains none of them.*

**First deliverable is not a proof:** a concrete inhabitant of the adapter's full premise set that **exercises the dynamic `c = 0` fact** — not one that would satisfy an adapter without it. That distinction already caught a hole here once: the first inhabitant was satisfiable under the goal it was written to replace.

**Comment by pirapira** [comment]
## Scoping result (first deliverable): the goal now states the real problem; the boundary is **three artifacts, not one**

Working branch: `k3/12457-list-arm` (rebased onto post-#12604 `main`, build green, both banked anti-vacuity witnesses elaborate). This supersedes the earlier "one artifact" framing in this issue's title/history — see §2.

### 1. The goal rewrite is verified correct

`main` still carries the placeholder: `SharedListArmsFromValidateGoal` at `RlpWalkNextStrictFuelMachine.lean:388` accepts `_cursorOff`/`_endOff` **never used** and instantiates `validateMachineIndexedFamily` with `sp = raVal = (0 : Word)` hard-coded. On the branch the goal (now at `Machine.lean:724` after file growth) threads them properly:

- `cursorOff`/`endOff` are **live parameters**: the `SharedListSelection` payload window, the `hprefix` load fact, the `listBase`/`endPtr` register relations, and the conclusion's pure atoms all use them.
- `sp`/`raVal`/`exit_` are **caller-supplied**; `hchild` instantiates `validateMachineIndexedFamily` at the genuine `sp`, with `x1 = S+160` returning to `(S+160) &&& ~~~1`.
- Conclusions keep the `S+148` short and `S+88` long arm shapes with the machine branch facts (`pfx < 248` and its negation) as **pure selectors** — no hidden input restriction, no `.ok`-gated premise.
- Anti-vacuity: the boundary witness (`[0xc0]`, `cursorOff = 0`) and the discriminating witness (`[0xc2, 0xc1, 0x00]`, `cursorOff = 1`, payload window `[2,3)` strictly inside the outer window, real caller `sp = 0x7000`, `raVal = 0x9000`) both elaborate. The discriminating witness's **only** hypothesis is `hchild` — the positive child `validateMachineIndexedFamily` that the mutual induction's IH owns. The banked refutation test shows the old zeros-goal is *not* satisfiable for this inhabitant.

Nothing instantiates the goal yet — discharging it is the builder work, and the ownership table (§4) says what the builder may assume.

### 2. The boundary is three artifacts, not one

**(A) K20 walk boundary** — machine `rlp_walk_next_shared`/`rlp_validate` mutual family ⇔ spec strict RLP item decode. Knot side is **discharged** (`validateFromSharedGoal_discharge`). The shared-list arm goal above is the one open builder obligation. **Second named residual behind it** (noted at `Machine.lean:630`): `validate_knot_body_under_shared_framed` needs `hshared` to post the *strengthened* `validateKnotSharedPost` with the success-cursor pin (`r.status = 0 → r.cursor = base + r.next`, added by #12419(c), not in `validateResultFacts`); no concrete Shared proof posts that shape yet. So discharging the list arm is necessary but **not sufficient**.

**(B) Header boundary** — machine `header_extended_decode_arity_check` + `header_extended_decode` ⇔ spec `_decode_header`. This is what #12346's consumer-1 adapter actually requires. Current state: `arity_check` has **no registry row, no triple, no consumer anywhere**; the 5 `.proven` `header_extended_decode` u64 rows all witness one **generic caller-segment** theorem (`SUB/MV/JAL` + a *supplied* callee triple — the concrete `rlp_content_to_u64_strict` instantiation is commented out) and have **zero downstream consumers** (registry witness only). No whole-decoder machine triple exists; it is blocked partly on (A) because the decoder drives `rlp_walk_next` per field. The reverse direction (machine fail ⇒ spec fail) does not exist in either direction's current inventory.

**(C) Summit boundary** — machine input decode ⇔ `deserialize_stateless_input`. Structural gap found in `TopComposition`: the phase shapes quantify over **all** `AdmissibleInput` (size + resource envelope only), but **no phase post models the deserialize-fail outcome** — `afterDecode` is layout-chosen and the reject path appears nowhere. The failure direction is currently **not even statable** in the phase vocabulary; a discharging layout must put the reject outcome into `afterDecode`. This is the byte-exactness-under-`.ok` trap made concrete: `runStatelessGuestFaithful` covers the success half; the complement is unaddressed.

Relationship: (A) feeds (B); (B) feeds the header component of (C). But they are three iffs at three types — no forced unification. **The consumer-1 adapter (#12346) requires only (B)** — plus (A) transitively as a building block, since the decoder's per-field walks go through the shared list arm.

### 3. Consumer premises at the call sites

- **Consumer 1 (#12346, `ValidateHeaderPair`)**: decoder status returns in `x10`; **success is the immediate-BNE fall-through** at `+52` (this-arity), `+76` (this-decode), `+92` (parent-arity), `+116` (parent-decode, branches to `+168`). The **failure epilogue** at `+160` (`LI x10, 1` — this-header parse fail) and `+168` (`LI x10, 2` — parent parse fail) leads to restore/ret. The adapter must retain **both** outcomes: `c = 0` fall-through carrying the decoded K39 struct ⇔ `_decode_header = .ok`, and `c ≠ 0` epilogue ⇔ `_decode_header = .error`. Also still open in #12346: arms 2 (excess-blob), 4 (base-fee), 8–10 (K67 u64 fields — where the segment triples would land), 11 (parent-hash — `headers_parent_hash` is an unproven leaf, emit drift guard only).
- **Consumer 2 (#12419)**: the `SharedListArmInputs` package, discharged *by* the builder from the `hstep` IH — builders must derive, not package.
- **Consumer 3 (#12455 summit)**: needs the reject path in the layout **plus** an input-decode iff; nothing exists on either side.

### 4. Ownership table for `SharedListArmInputs` premises

| Premise | Owner |
|---|---|
| `selector` (payload window), `hprefix`, `hlistPrefix`, `hlistBase`, `hendPtr`, `hP`, `hvalidateSub` | **the builder** (from the arm preamble code + `hstep` IH facts) |
| `hdepth` (`< 1024`) | the existing depth-check arm lemma |
| `hchild` (positive child `validateMachineIndexedFamily`) | the **mutual induction IH** (knot side) — named construction boundary, correctly a hypothesis |
| `hbase_aligned`, `hover`, `hnowrap`, `hvalid` | **nobody** — the static envelope has no owner above the walker today; no whole-decoder triple exists to carry it. The `rlp_walk_init` call sites inside `header_extended_decode` must supply it once (B) exists. Said plainly: 4 of 14 premises currently have no discharger. |

### 5. `decode_header_inv` transitive consumers

Exactly the three per-field bridges (`HeaderValidateExtraDataLengthBridge:65`, `HeaderExtractLogsBloomBridge:80`, `HeaderExtractNumberBridge:125`) plus `Correspondence` citations. All success-direction, all arity-domain-restricted (`.ported`). No reverse direction, no whole-decoder use. `arity_check` is consumed by nothing.

---

Scoping deliverable only — no adapter proof started. If the scope is bigger than one adapter, the honest statement is: the consumer-1 adapter is artifact (B) standing on artifact (A); (C) is a separate layout-level obligation.

**Comment by pirapira** [comment]
## Method note: correcting my scope verdict — the conclusion side of the goal is false as stated, and here is why the miss was structural

In the scope comment above I wrote that the goal "states the real problem." That verdict is **correct for the premise bundle and wrong for the conclusion**, and the reason the miss happened is the reusable part, so this is written as a method note rather than an apology.

**What was checked.** The two anti-vacuity witnesses inhabit `SharedListArmInputs` — the premise bundle — at a boundary instance (`[0xc0]`, cursor 0) and a discriminating instance (`[0xc2, 0xc1, 0x00]`, nonzero cursor, real caller `sp`/`raVal`). A banked refutation test shows the old zeros-goal could not be inhabited by the discriminating instance. All of that stands.

**What was missed.** The conclusion triples are stated under `RlpWalkNextStrictTie.sharedCode`, but both list arms unconditionally execute the `JAL` at `S+156` into validate's body and return through `S+160`. In this CPS model, `cpsTripleWithin` quantifies over **all** states satisfying the code requirement — including states with no code loaded at validate's addresses, where execution stucks immediately after the `JAL`. So the stated conclusions are **false propositions** for any exit past the call, including the intended `exit_ = validateEntry + 40`. The countermodel is constructive: `code := sharedCode` exactly, step to `S+156` via the existing arm lemmas (code is preserved by `setReg`/`setMem`), the `JAL` executes (it is in shared), then `step = none` forever.

**Why the miss was structural.** A premise witness is not evidence about the conclusion. Inhabiting the antecedent bundle tells you the goal is not vacuously quantified; it says nothing about whether the succedent is a true proposition. I validated the bundle and inspected the conclusion's *shape* (arm entries, frame registers, branch-fact selectors) but not its *truth under the stated code requirement*. The two corroborating signals were visible and unweighted: the goal's `wholeCode` parameter and `hvalidateSub` premise are **dead** — nothing in the conclusions references them — and the branch's own arm/continuation lemmas for exactly these paths (`shared_short_arm_validate_call`, `shared_long_arm_validate_call`, `validate_call_dep_hcallee`, `shared_after_validate_cont_family`) are all stated under `sharedCode ∪ validateCR` or `(singleton JAL) ∪ validateCR`. A statement none of its intended adjacent lemmas can chain to is wrong, not merely weak.

**The wider instance.** The same defect is live on `main` in the shared-side contract lattice: `SharedMachineContract.proof` (`rlp_walk_next_shared → validateEntry+40` under `sharedCode`), `sharedDependentContinuation`, and `ValidateMachineContract.hshared`/`hnested` are all stated under codes their paths cross out of; the discharged knot side (`validateFromSharedGoal_discharge`) consumes `hshared`, which is uninhabitable at fuel ≥ 2 because list windows exist at every fuel ≥ 1 and every list arm calls validate. That side is tracked separately as #12609.

**The fix.** Amend the goal's conclusions to `sharedCode.union validateCR` (the convention the branch's own lemmas already use), which forces `hchild` to move to `validateCR` — the call-boundary lemmas take the callee triple under `validateCR`, and `cpsTripleWithin_extend_code` weakens code requirements one way only, so a `wholeCode` proof cannot feed a `validateCR` call site. The dead `wholeCode` parameter and `hvalidateSub` premise go with it. Follow-up PR incoming; the discharge rides with it.

**Lesson for the anti-vacuity rubric**: a witness set for a `Goal`-shaped def must include a *conclusion-side* check — at minimum, verify that every code requirement in the stated triples covers every PC the path can reach (the arm/call/continuation lemmas the conclusion must compose with are the cheapest oracle), not only that the premises are inhabited.

**Comment by pirapira** [comment]
## Tactic note: feeding a right-nested `** ⌜pure⌝` precondition into a callee lemma (for e3c and the fleet)

Hit on #12611 while composing the amended list-arm precondition into `shared_short_arm_validate_call`; the same shape appears whenever a goal precondition interleaves register atoms and `assertPure`/`⌜…⌝` atoms and must be handed to a callee whose `P` has a different atom order. Three failure modes and the working pipeline:

1. **`sepConj_pure_right` with an explicit heap argument breaks meta-unification.** Use the heap-inferred idiom `(sepConj_pure_right _).mp hpure` — let Lean solve the heap from `hpure`. Also note it only fires when the **right** component of the *top-level* `**` is pure; a right-nested `A ** (B ** ⌜p⌝)` chain needs stripping one layer at a time.

2. **Do not `obtain`/`rcases`-split the precondition before `xperm_hyp`.** Splitting `sepConj` gives each conjunct its own sub-heap; afterwards `xperm_hyp` faces a single-atom hypothesis against a many-atom target and fails, because `xperm` **permutes — it does not drop or re-associate across ownership you already destroyed**. The permutation must happen while the whole conjunction is still one hypothesis on one heap.

3. **The working pipeline** (documented for this shape in `TACTICS.md` §"drop_pure"/xperm, and the `AccountAccessor` idiom `cpsTripleWithin_weaken (fun h hp => by xperm_hyp hp)` is the codebase-standard packaging): inside the `hpre`/`hpost` argument of `cpsTripleWithin_weaken`, do
   ```lean
   fun h hp => by
     drop_pure hp      -- drains every ⌜…⌝/assertPure atom into the context
     xperm_hyp hp      -- permutes the remaining register/frame atoms to the callee's order
     exact hp          -- (or ⟨hp, …⟩ re-wrapping the pures if the target still wants them)
   ```
   `drop_pure` first, `xperm_hyp` second, `obtain` never (unless the *target* shape genuinely needs separate ownership — then split only after the permutation has put every atom in its final position).

Worked instance: `shared_list_arm_goal_short_compose` in `EvmAsm/Codegen/Programs/RlpWalkNextStrictFuelMachineArms.lean` (branch `k3/12457-arm-code-union`, merged via #12611) — six pure atoms plus four register atoms plus a frame, weakened into the callee's exact `P` in three tactic lines.

**Comment by pirapira** [comment]
## Ruling: take (b) — thicken the pres. Recorded with the reasoning, because the alternative recreates the defect this issue just fixed.

`k3` mapped the seam and found the adapter is **not a weaken**, then held for a decision rather than amending unilaterally. The facts, from the merged tree:

- **Arm lemmas' callee pre** (`sharedListValidateCallPre`, used by `shared_short_arm_validate_call` `MachineArms:94`) pins `x1 = S+160`, `x5 = listBase`, `x12 = x10 = listBase+1`, plus a generic `P`.
- **`hchild`'s entry** (`validateCyclePre`, `Fuel.lean:168`) needs `x2 = sp+32`, `x1 = raVal`, `x0 = 0`, `x10 = base+childCursor`, `x11 = base+childEnd`, `regOwn x5`, `regOwn x12`, `memOwn sp / sp+8 / sp+16`, `bytesRegion base bytes`, a `ValidateFuel` pure, and `P`.

⇒ The thin pre **cannot imply the thick pre by weakening**: the `x2`/`x0`/`x11` pins, three `memOwn` cells, the `bytesRegion` and the fuel pure are simply absent. And the two short-arm instructions (`S+148`→`S+156`) write only `x12`/`x10`, so the arm code does not produce them either — **they must come from the arm entry pre.**

### Why (a) is the wrong choice even though it works

Option (a) — discharge with a rich `P` instantiation, goal text unchanged — **is provable**. It is rejected because it leaves *"`P` must carry the validate entry atoms"* **unstated**.

⛔ That is precisely the defect class this issue has spent the day removing. The original placeholder hardcoded `sp`/`raVal` to zero and accepted `_cursorOff`/`_endOff` it never used; the shared-side contracts were false because a code requirement omitted a region the path needs. In every case **an unstated requirement read as a proof and functioned as a restriction**, and the cost was paid by whoever came next. Choosing (a) would hand the next consumer the same discovery, and nothing would flag it — a thin-`P` instantiation makes the conclusion unprovable while the goal text looks fine.

### ⭐ The decisive argument is `k3`'s, and it is sharper than "thin"

The thin callee pre is **wrong in both directions at once**:

- it pins `x5 = listBase` as a **value**, where `validateCyclePre` only needs `regOwn x5` ⇒ **over-claiming**;
- it omits pins the machine demonstrably does have ⇒ **under-claiming**.

Against the frame rule — *a contract mentioning a register it does not touch is over-claiming; one omitting a register it writes is false* — this is not a conservative approximation. It is an **invented ABI**, the same class as the shared-code omission in #12609.

### ⛔ And the check that makes (b) legitimate rather than hypothesis-adding

The standing rule is: **never add hypotheses to make a derivation go through** — that converts a discharge into a domain restriction. So (b) needs a defence, and it has one:

⇒ **`sharedCyclePre` (`Fuel:150-161`) already carries the `memOwn`s and the `bytesRegion`.** The atoms genuinely exist in the shared machine's state at `S+148`; the arm-level lemmas dropped them along the way.

⭐ **That is the discriminator: stating an atom the caller demonstrably establishes is correcting an omission, not adding a premise.** Adding a premise nothing establishes would be the forbidden move. Whoever applies this elsewhere should check exactly that — *does the caller establish it?* — before thickening anything.

Note also the direction: ownership is linear, so the universal frame `R` cannot re-pin registers the pre owns. That is why the goal is merely **unprovable under a thin `P`** rather than false. This is a weaker failure than #12609's, and it is being fixed to the same standard anyway.

### ⚠️ One question back, and it may change the shape of the work

**This is the third amendment to the same statement today** — the placeholder rewrite (#12605), the code-requirement union (#12611), now the seam ABI. Three patches toward a consumer's contract is a signal worth taking seriously:

⇒ **Is it now cheaper to derive `sharedListValidateCallPre` and the goal's conclusion pres *from* `validateCyclePre`, rather than patch them toward it a third time?** The consumer's contract is the fixed point here — it is the thing the machine actually requires — so a statement derived from it cannot drift from it. Answer that before writing amendment 3; if the answer is yes, do that instead and say so.

⛔ **Do not amend PR #12611.** It carries `merge!` at `3b85aed90…66ab6` and is in the merge queue; the label is the handoff. Amendment 3 goes in a **new** PR.

⚠️ And it must **redo the compose check**: #12611's `shared_list_arm_goal_short_compose` chains through `shared_short_arm_validate_call`, whose pre this amendment thickens. A compose check that is not re-run against the amended lemma is exactly the evidence that stops meaning anything.

**Comment by pirapira** [comment]
## Derive confirmed, and a correction to my own reasoning on this issue

`k3` answered **yes, derive rather than patch**, and checked the instruction stream before answering rather than after. The evidence it produced, which is what makes the derivation sound rather than plausible:

| atom | why the pin genuinely holds |
|---|---|
| `x2 = sp+32` | validate's prologue is `ADDI x2 x2 -32` with `SD` at `x2+0/8/16`; at `S+156` the machine's `x2 = f` (shared frame base, set at `S+0`, untouched until `S+200`) ⇒ `sp := f-32` **consistent with the machine** |
| `x11 = base+endOff` | `S+76` loads `x11 := mem[x2+24] = outerNext`, and `outerNext` = end of the list item = `base + payloadEnd` in **both** arms (short `1+len`, long `1+ll+len`) |
| `x10 = base+cursorOff` | both arms `MV x10 := x12`, where `x12 = listBase+1` (short) / `listBase+1+ll` (long) = `base + payloadStart` in both |
| `x0 = 0` | pinned at shared entry; no instruction in the body writes `x0` |
| `regOwn x5`/`x12`, `bytesRegion` | present — and note `x5 = listBase` is **the arm's** need, not the callee's; validate needs only ownership ⇒ confirms the invented-ABI reading of the thin pre |

⭐ It also **retracted its own earlier worry** in the process: the `x11`/`endOff` concern was short-arm-only and turned out to hold in both arms.

## ⛔ Correction: my "does the caller establish it?" test was right, but I named the wrong caller

I wrote that (b) survives the *never add hypotheses* rule because **`sharedCyclePre` (`Fuel:150-161`) already carries the `memOwn`s and the `bytesRegion`**. `k3` checked, and that is **not accurate for the scratch cells**:

⇒ The `memOwn (f-32) / (f-24) / (f-16)` cells are **not in `sharedCyclePre`'s own frame `[f, f+48)`** — they sit **below** it, owned by the **ambient `P`** that rides `guest → knot → shared`.

**The conclusion survives, the provenance changes.** The atoms genuinely exist in the state, so stating them is still *correcting an omission* rather than *adding a premise*. But they come from **further up the chain** than I claimed.

⭐ **Refined rule, and this is the reusable part:** *"does the caller establish it?"* is the right discriminator, but it requires identifying **which** caller — an atom may be established several links up, by an ambient assertion rather than the immediate caller's pre. **Do not assert the provenance without checking it**; I did, and the agent that checked was right.

⚠️ **And this strengthens the case for deriving rather than patching**, in a way I had not seen: under option (a) the ambient-`P` provenance stays **hidden**. The derived pre states those cells explicitly, which makes the dependency on the `guest → knot → shared` chain **visible to consumers**.

⛔ **Which raises a thing to watch:** if some link in that chain *assumes* the scratch `memOwn`s rather than establishing them, the derived pre will surface it as an unmet obligation. That would be a finding, not a regression — and better surfaced here than discovered by a later consumer.

## The agreed shape

- **Callee-side pre** = `validateCyclePre` used **directly**, instantiated at `sp := sp_shared-32`, `raVal := S+160`, `cursorOff := payloadStart`, `endOff := payloadEnd`, `fuel := cycleFuel ps pe`, `P := arm leftovers`. ⇒ **No drift possible**, because there is no restatement to drift from — this is the point of deriving.
- **Arm-side pres** = the atoms the machine has at `S+148`: thick, with `x10`/`x12` as `regOwn` (the arm computes them) and `x5 = listBase` as a value pin.
- **Goal conclusion pres** thicken correspondingly.

⇒ Stacking a new branch on `3b85aed90`; PR #12611 is untouched while in the merge queue. The compose check will be re-run against the amended call lemma.

**Comment by pirapira** [comment]
## PARKED MID-FLIGHT (maintainer redirect to #12346) — resume note

Branch `k3/12457-seam-abi` at `eaf199671` (stacked on `3b85aed90` = #12611's head, which stays untouched). **Does not build** — one stale theorem left; everything else elaborates (module builds verified).

**Amendment 3, DERIVE not patch** (approved shape): the callee-side pre is `validateCyclePre` used **directly** at `sp := sp_shared − 32`, `raVal := S+160`, `cursorOff := payloadStart`, `endOff := payloadEnd`, `fuel := cycleFuel ps pe` — no restatement, so no drift.

**Done and elaborating** (`Machine.lean`, `MachineArms.lean`):
- `sharedListValidateArmPre` / `sharedListValidateCalleeFrame` / `sharedListValidateCalleePre` (+ `_eq` expand lemma); goal conclusion pres thickened to the derived arm pre.
- `sepConj_demote_two_right` (regIs→regOwn demotion tower); `shared_short_arm_validate_call` restated with `hstart : listBase + 1 = base + BitVec.ofNat 64 payloadStart` as a named premise (the discharge derives it from `hprefix` + short-form prefix semantics — `SharedListSelection` has no exact `ps = cursorOff + 1` relation).
- `shared_list_arm_goal_short_compose` **redone against the restated call lemma** — elaborates.

**Instruction-stream ABI verification** (do not re-derive): at `S+156`, `x2 = f` (shared frame base) so validate's frame is `[f−32, f−8)` and `validateCyclePre`'s `x2 = sp+32` pin holds with `sp := f−32`; `x11` is loaded from the shared frame at `S+76` and equals `base + payloadEnd` in **both** arms; `x10 = x12` via the handoff in both arms (`listBase+1` short, `listBase+1+ll` long) `= base + payloadStart`; `x0 = 0` pinned at shared entry, never written. `x5 = listBase` is the **arm's** need (`ADDI x12, x5, 1`), not the callee's.

**Provenance correction (my measurement, coord's record)**: the scratch cells `memOwn (f−32)/(f−24)/(f−16)` are **not** in `sharedCyclePre`'s own frame `[f, f+48)` — they sit below it and are owned by the **ambient P** riding guest→knot→shared. Stating them in the derived pre is still correcting an omission (the atoms genuinely exist), but the provenance is several links up, not the immediate caller. ⚠️ Watch-item for whoever resumes: if some link in that chain *assumes* rather than *establishes* the scratch memOwns, the derived pre surfaces it as an **unmet obligation** — report it, don't paper over it (same defect shape as #12609).

**Remaining to finish the amendment**:
1. `shared_long_arm_validate_call` restatement — same skeleton as the short one; `x13` (ll count) rides the frame `P` (`P' := (regIs .x13 pfx) ** P` everywhere incl. the `hval` callee pre); `hstart : cursor + pfx + 1 = base + BitVec.ofNat 64 payloadStart`; `4+(1+nVal)` steps from `S+136`.
2. `MachineCont`'s `shared_list_arm_goal_short_full_chain` redo (currently stale — the one build break): same as compose-check + `cpsTripleWithin_seq_dep_post_same_cr` + `shared_after_validate_cont_family`, `hsucc`/`hfail` unchanged.
3. Gates (build / no-warnings / file-size — `Machine.lean` near the 1500 cap, watch it / unimported), then PR with the omission-correction argument (provenance as above) + one-way-weakening fact.

Tactic lessons that cost time, for the resumer: `regIs_to_regOwn _ _ h3 hx` (4 explicit args); `sepConj_mono_left/right` are direct-style with the heap explicit and the mono call must be in **tail position**; in a `have` type inside a lambda, **name the heap** (`fun hps hp => by ... )))) hps := by`) — an anonymous `_` there cannot be synthesized; verify with `lake build` of the module, the LSP goes stale on cross-file edits.

**Comment by pirapira** [comment]
## Full-premise anti-vacuity result

The concrete premise-set check is now complete on branch `codex/12457-seam-abi` at `eaf199671652963bf0e6b42ff7eb4f406ec7af29`.

The real definitions do construct the `SharedListArmInputs` records for both checked cases:

- boundary: `bytes = [0xc0]`, `cursorOff = 0`, `endOff = 1`;
- discriminating nested case: `bytes = [0xc2, 0xc1, 0x00]`, `cursorOff = 1`, `endOff = 3`, payload window `[2,3)`, `pfx = 0xc1`, `sp = 0x7000`, `raVal = 0x9000`, and masked exit.

Those are genuine constructions of the selector, prefix, depth, pointer, alignment, bounds, byte-validity, and frame premises. They are not full premise-set inhabitants of the universal arm goal, however: both records carry

`hchild : validateMachineIndexedFamily ...`

as their only unresolved binder. The existing concrete discharge `validate_machine_indexed_family_zero` covers the exact empty-window case (`cycleFuel = 0`) only. For the discriminating case the selected child has `cycleFuel 2 3 = 2`, and no positive-family builder exists anywhere in the tree. Thus the full premise set cannot currently be constructed from real machine contracts; the witnesses are conditional on the mutual-induction IH, not independent coverage of that IH.

This is a finding, not a proof result: the anti-vacuity file verifies the concrete data around the binder, while the positive validator family remains the construction boundary.

The same pattern was independently reported for `shared_list_discriminating_inhabited` in #12609: a witness that looks like a cover is parameterised by the positive family it is meant to certify. This is a shared anti-vacuity pattern across the two clusters, not a local typo. If one positive-family builder can serve both, that is the preferred repair shape.

Consequently, k3's estimate of “two theorems from done” does not survive unchanged. The missing positive-family builder is additional work before a full bridge theorem can be honestly claimed; the exact size depends on whether it can be shared with #12609.

**Comment by pirapira** [comment]
## Induction-closure check

**Answer: NO SUCH THEOREM EXISTS IN THE TREE.** The positive validator family is not currently proved for all fuel.

The declarations that look closest are only conditional infrastructure:

- `validate_machine_indexed_family_zero` constructs the family at the exact base case `fuel = 0`.
- `actual_strict_walk_machine_induction` is a generic eliminator whose callers must supply `hshared` and `hknot` step builders at every fuel.
- `actual_strict_walk_machine_induction_from_base` is likewise conditional: it takes an explicit base package and an explicit positive `hstep`, then returns the two families for all fuel. No theorem in the tree instantiates that `hstep`.
- `validate_machine_proof_of_knot` is a per-window adapter from a supplied knot proof; it is not an all-fuel family closure.

Therefore the existing witnesses' `hchild` is not yet an induction hypothesis supplied by a closed mutual proof. It is a positive-family assumption. The discriminating case remains conditional on `validateMachineIndexedFamily ... fuel = 2`, while the only concrete family discharge is fuel 0. This is the serious construction gap: the mutual knot does not currently bottom out into a theorem that covers the positive fuels consumed by the witnesses.

This also reframes the parallel #12609 observation: its `shared_list_discriminating_inhabited` has the same conditional `hchild`, and the two clusters may share one missing positive-family closure rather than needing two independent witness repairs.

Accordingly, the earlier “two theorems from done” estimate does not hold. A positive-family induction step (and its shared closure, if the same construction serves #12609) is required before the header bridge can honestly claim a full premise-set inhabitant.

**Comment by pirapira** [comment]
ACK 12457-SCOPE. Exact declaration map at eaf1996716 (clean; no edits):

1. RlpWalkNextStrictFuelModel.lean
REAL measure/eliminators:
- remainingBytes, cycleFuel, cycleFuel_strict_of_advance/window and the four edge lemmas are the termination measure and strictness facts. Preserve the factor 2.
- cycleFuel_mutual_strong_induction and cycleFuel_mutual_strong_induction3 eliminate on an arbitrary Nat fuel; these are the current raw-index eliminators that a window WF theorem would replace.
- mutual_fuel_witness_all / mutual_fuel_witness perform the only current all-fuel construction.
DERIVED-index constructors:
- mutual SharedFuel/ValidateFuel/NestedFuel have a Nat index, but every constructor result fixes it definitionally to cycleFuel(cursor,end); no constructor decrements or accepts an arbitrary counter.
THREADS equality:
- SharedFuelFamily/ValidateFuelFamily/NestedFuelFamily quantify raw fuel and then require fuel = cycleFuel cursor end before producing the derived constructor. These are the family wrappers, not runtime fuel.
- nested_list_exact_fit_inhabited is a concrete derived-index witness.

2. RlpWalkNextStrictFuelContracts.lean
REAL structural index:
- IndexedCpsContract.index is a type-level structural index used to relate parent/child contracts; its steps field is the independent CPS bound. It is currently unconstrained by cycleFuel, so a compatibility wrapper must make the index definitionally cycleFuel(window) or replace it by a Window parameter.
- SharedListValidatorAdapter.parentFuel/childFuel and decrease are real parent/child index relation fields, although all callers intend them to be cycleFuel values.
DERIVED indices:
- PayloadStrictFuel first Nat is endOff-cursor (constructors force that expression, not arbitrary fuel); payloadFuel_step_lt and payloadFuel_guest_budget_lt prove its descent/relationship to cycleFuel.
- ValidateK fuel is just the PayloadStrictFuel index; ValidateLoopContinuation fuel is carried through ValidateK.
- ValidateTrace first Nat is also endOff-cursor by its constructors; ValidateTraceCpsFamily carries it.
THREAD-ONLY:
- validateResultFacts accepts _fuel but does not use it in its proposition (dead transport parameter); validateResultPost, shared_validate_status_* and cpsDepPost bridges thread it into those posts. ValidateResult itself has no fuel.

3. RlpWalkNextStrictFuel.lean
REAL index uses:
- validate_nested_alias_indexed, sharedIndexedFamily and validateIndexedFamily use fuel as the IndexedCpsContract index.
- SharedMachineContract/ValidateMachineContract carry fuel in their types; ValidateMachineContract.hshared/hnested quantify k < fuel, so this is a genuine family-index surface.
- actual_strict_walk_two_family_induction eliminates on fuel through cycleFuel_mutual_strong_induction.
THREAD-ONLY:
- sharedCyclePre, validateCyclePre/Post, validatePreservedResources, sharedContinuationOutput/sharedDependentContinuation and validateResultDependentPost pass fuel into SharedFuel/ValidateFuel/result-post pures. Their callers instantiate it as cycleFuel(window), but the definitions do not enforce that equality themselves.
- Remaining CPS composition theorems in this file similarly thread fuel; their actual machine-step numbers are nCall/nCont/steps, not fuel.

4. RlpWalkNextStrictFuelListArm.lean
REAL relation:
- shared_list_recursive_continuation consumes childFuel < parentFuel and an IndexedCpsContract child, returning an IndexedCpsContract parent.
- shared_list_arm_adapter_from_existing, shared_list_arm_contract_from_adapter and shared_list_arm_existing_contract_instantiated carry the same parent/child index pair.
The fixed prefix/short/long branch theorems have no fuel of their own.

5. RlpWalkNextStrictFuelMachine.lean
REAL family/index surfaces:
- sharedMachineIndexedFamily, validateMachineIndexedFamily, knotBodyMachineIndexedFamily and knotBodyBoundedFamily quantify raw fuel and use fuel = cycleFuel window; their result is a machine contract at that raw index.
- KnotStepBudget.B is NOT a descent index: its Nat argument is a CPS-step budget domain. Keep it separate (it can remain B(cycleFuel window) or become a Window-indexed budget).
- actual_strict_walk_machine_induction and actual_strict_walk_machine_induction_from_base are raw-fuel strong-induction/base eliminators.
- SharedListSelection.parentFuel and hparent are a real type/index parameter plus a derived equality; toSharedFuel consumes that equality.
- SharedListArmInputs.parentFuel is carried into the real hchild family at the selector child cycleFuel.
- SharedListArmsFromValidateGoal, ValidateFromSharedGoal and MachineInductionBuildersGoal contain the universal raw-fuel family assumptions and are the main builder obligations.
DERIVED/transport-only:
- validate_machine_contract_empty_base, validate_machine_indexed_family_zero, sharedMachineIndexedFamily_empty_post_elim/false_post_elim and empty-window witnesses use fuel only to derive cycleFuel=0/window equality and package the base; rewrite them to the window base case, do not delete semantically.
- long-prefix loop theorems have no raw fuel.

6. RlpWalkNextStrictFuelMachineArms.lean
No independent fuel/index declaration: arm contracts consume SharedListArmInputs and ValidateFuel/cycleFuel pure facts. Mechanical type fallout only.

7. RlpWalkNextStrictFuelMachineCont.lean
THREAD-ONLY in most continuation/status bridges: sharedAfterValidatePre/Cont family, validateCyclePrePinned, validateMachineContract_proof_pinned, validateCyclePost_eq_cpsDepPost, validate_entry_then_knot_dep/extend/cycle_post, validate_cycle_pre_to_knot, validate_machine_proof_of_knot and validate_knot_body_under_shared pass fuel into validateCyclePre/Post, ValidateFuel and result posts.
REAL child-family use:
- validateFromSharedGoal_discharge constructs hnested : for all k < fuel, IndexedCpsContract k via validate_nested_alias_indexed; this is the raw family edge that must become child-window recursion.
- all nKnot/nCont/steps are CPS bounds and remain independent.

8. RlpWalkNextStrictFuelStatus.lean
THREAD-ONLY: shared_validate_status_dep_at and shared_validate_status_dep accept fuel only to feed validateResultFacts/status frame/post. The branch itself has fixed cpsNBranchWithin 14; no fuel descent.

9. RlpWalkNextStrictFuelAntiVacuity.lean
DERIVED witnesses only: antiVacuityParentFuel/discriminatingParentFuel are cycleFuel(cursor,end) values; the discriminating witness passes child cycleFuel to validateMachineIndexedFamily. Retarget these to the closed window family and keep them as the anti-vacuity check.

10. Imports/consumers:
- Imports.lean only imports the cluster; it changes only if a new CursorWindow module is introduced.
- HeaderValidatePostMergeLoopSpec.lean consumes only cycleFuel and cycleFuel_strict_of_advance for k67CycleFuel; preserve those names and no Header edit is needed. HeaderValidatePostMergeLoopBody's K67RoundContract is a separate local field; Witness only has comments.
- Progress/Routines.lean has the actual private _rlp_cycle_fuel_mutual_witness := mutual_fuel_witness and gate text; Progress/Obligations.lean is prose. Keep a compatibility witness alias and these need no code change; deleting the old name requires updating these two files.

Conclusion: coord's expectation is right. Every equality-bound site can mechanically drop an independent fuel parameter; the genuine rewrite is the three raw Nat eliminators/family surfaces plus IndexedCpsContract/parent-child relation and the builder obligations. The factor-2 cycleFuel remains the WF measure; steps/KnotStepBudget remain separate CPS bounds. The semantic rewrite is large but shallow across the Rlp cluster, and is blocked now by labelled 12634 (8444fa7eb) touching the same files. STOPPING here; no files changed.

**Comment by pirapira** [comment]
The in-tree `MeasureLoop.measureTwoExitLoop_spec` (`EvmAsm/Rv64/SAsm/MeasureLoop.lean:41-75`) already has the data-dependent shape needed for the RLP cluster: each round either reaches a final exit or returns to the header with a strictly smaller measure `j' < j`, and the fold terminates by `Nat.strongRecOn`. For the RLP walk, `j` can be the remaining window bytes (`end - cursor`). This means the 12457 rewrite may be an instantiation/reuse of an existing measure fold rather than construction of a new measure framework. The connection is not total: a typed loop can make its continue/latch edge carry the decrease obligation, but typed PC destinations alone do not prove termination, and the measure should remain a logical well-founded certificate rather than part of offset arithmetic.

**Comment by pirapira** [comment]
## ⛔ `measureTwoExitLoop_spec` does NOT reduce this rewrite — my hypothesis is refuted

I suggested that `MeasureLoop.measureTwoExitLoop_spec` (`:41-75`) might already be the construct this issue needs, making the rewrite an **instantiation rather than a construction**. `evm-asm3-codex` checked it read-only against the declaration map above. **It does not fit.**

**Shape mismatch.** `measureTwoExitLoop_spec` has one `hdr`, one `inv : Nat → Assertion`, a fixed `cr`, exactly two terminal exits, and one recursive exit back to the **same** `hdr` with `inv` at a smaller `j`. The RLP knot is `S → V → N → S`: shared/list enters the validator at `V`, the validator's item enters nested at `N` with a **dependent decoded-item post**, and nested re-enters shared at an **advanced cursor**. Distinct code, entry and post families (`sharedCode`, `validateCR`/`wholeCode`, `nestedMachineCode`). ⇒ no direct instantiation can express those edges or the dependent continuation.

⭐ **What *does* fit is the arithmetic, and that part is worth keeping separate:** `j = cycleFuel cursor endOff = 2 * (endOff - cursor)`, and the existing `cycleFuel_strict_of_advance` / `cycleFuel_strict_of_window` already prove strict decrease on **both** the outer-list and inner-item edges. The factor 2 survives as a `Nat` index witness. **The theorem simply does not encode the cursor relation, nor require both edge proofs.**

**What reuse would cost**, if someone wanted it: three tagged or state-indexed families (or separate `InvS`/`InvV`/`InvN`), recursive exits permitted to change entry/family, dependent posts carrying the decoded next cursor, and a per-index monotone CPS budget (the existing `KnotStepBudget`) in place of one fixed `m` where child step bounds vary. ⇒ `measureTwoExitLoop_spec` becomes usable only **inside a collapsed single shared round, after** the hard `S→V→N→S` adapter already exists — so it does not reduce construction now.

⭐ **The matching infrastructure is the one the map already named**: `cycleFuel_mutual_strong_induction3` plus `IndexedCpsContract` / `KnotStepBudget`.

⇒ **The cost estimate in the declaration map above stands unchanged.** That is now established by inspection rather than assumed — and the go/no-go should rest on the refutation, not on my cheaper hypothesis.

**Comment by pirapira** [comment]
## Dispatched to `evm-asm3-codex` — premise re-verified, and one fence stated up front

### Why now

This was chosen on 2026-08-15 over `_start` pinning, the K146 triple (#12427) and the SAsm migration
(#12399), and it has been unowned since. ⭐ The recorded reason matters and is worth repeating, because
it was a correction of my own ranking: I had put `_start` first *"partly because it was better-defined
and this is unscoped"*, and the ruling was **"facing uncertainty is important."** So the lack of scope is
not a reason to keep deferring it — and I let it slip for five days while allocating the fleet to
better-defined work, which is the same error in a slower form.

The agent is free: #12673 is `merge!` at `17f25865b` (blocked only on a stale `complicated-merge` label),
and #12681 is `merge!` at `3445ccab8`.

### Premise re-verified at `origin/main` `f51f55c20`

| check | result |
|---|---|
| files mentioning `header_extended_decode` | **8** |
| theorems relating it to `_decode_header` | **0** — the bridge does not exist |
| `Routines.lean` rows naming it | 5 |
| `AxiomWitnesses.lean` entries | 1 |

⇒ The routine is *partly* covered, but the decode correspondence this issue asks for is absent. Premise
holds.

File surface: `Codegen/GuestAddrs.lean`, `Programs/Header.lean`, `Programs/HeaderDecode.lean`,
`Programs/HeaderU64ExtractSpec.lean`, `Programs/ValidateHeaderPair.lean`,
`Proofs/GuestImageEntries.lean`.

### The deliverable

**Both directions.** Machine `header_extended_decode` succeeds/fails **iff** SpecRef `_decode_header`
succeeds/fails. A one-sided version is not it: the project bar is iff and a false reject is a bug.

⭐ **A scope may be the first deliverable rather than a proof.** If the honest first output is *what the
correspondence would have to say, and which premises are not dischargeable*, that is the right thing to
report. An honest open item beats a green result.

⛔ **Anti-vacuity is a precondition, not a finishing step.** Construct a concrete inhabitant of the
**full** premise set — every binder at once, real definitions — before proving anything. A green build
cannot detect a post owning a register the pre lacks (triple **false**), an atom supplied twice
(**unsatisfiable**), or a theorem from an uninhabitable hypothesis (**vacuous**, kernel-clean, and
counted by the ledger). All three have been found live in this repo, two of them today.

### ⛔ Fence with #12659

`header_extended_decode` **is** #12659's K39: field 15 calls `rlp_content_to_u256_be_strict` and stores a
32-byte result at header struct + 96. `codex2` is on #12659 **stage 2**, which is pure arithmetic with
existing callers left wired, so it is not in these files today. But **stage 3** wires variable-width
decode through K39 and would touch `HeaderDecode.lean`. Stage 3 is gated on the maintainer and has not
started.

⇒ Both agents have been given this fence from their own side, and both must report **before** modifying
`HeaderDecode.lean` so the two can be sequenced rather than colliding in a merge.

### Standing checks

Addresses from the **linked disassembly**, never from source or a `Program`'s recorded metadata. Build
claims state **reached completion**, not a job count. New files under the 1500-line `Codegen/Programs`
cap. Any change moving `.text` or registry counts must run **both** `scripts/progress-report.sh --write`
and `scripts/drift-report.sh --write` and commit whatever each produces — `PROGRESS.md` cost #12666 a
pulled label and `DRIFT.md` failed #12673's build today. Registry counts route through coord.

**Comment by pirapira** [comment]
## All-fuel closure: construction boundary (12457-CLOSURE)

The full decoder bridge reduces to the exact machine-family closure consumed by `actual_strict_walk_machine_induction_from_base` (`EvmAsm/Codegen/Programs/RlpWalkNextStrictFuelMachine.lean:247`):

- `hbase`: `SharedMachineIndexedFamily ... 0 ∧ knotBodyMachineIndexedFamily ... 0`;
- `hstep`: for every `fuel > 0`, from `∀ k < fuel`, both machine families at `k`, construct both families at `fuel`.

The eliminator is a genuine `Nat.strong_induction_on` with the full `k < fuel` induction hypothesis. I smoke-tested that shape at the concrete anti-vacuity package (`antiVacuityBytes`, base, frame registers, `Unit` post, `sharedCR`/`validateCR`): the scratch theorem typechecked with `LAKE_ARTIFACT_CACHE=false lake env lean`, then was deleted from `/tmp` and was not added to the tree. This only proves that the eliminator applies; its premises remain explicit hypotheses.

The measure is not an open design choice: `RlpWalkNextStrictFuelModel.lean:9,36` defines `cycleFuel cursor endOff = 2 * (endOff - cursor)`. The factor two is load-bearing for the mutual `Shared → Validate → Nested → Shared` cycle: the outer-list payload edge and the inner-item cursor edge each strictly decrease the same index. `cycleFuel_strict_of_window` / `shared_list_edge_decreases` discharge the Shared→Validate payload edge; `cycleFuel_strict_of_advance` discharges Validate→Nested and Nested→Shared cursor advances; `NestedFuel.done` is the terminal cursor=end case. This agrees with `EL/RLP/Decode.lean:48` and `FuelMono.lean:246`, which also use two fuel units per byte.

What is dischargeable now:

- the arithmetic measure and all three strict-decrease obligations;
- abstract `SharedFuel`/`ValidateFuel`/`NestedFuel` all-fuel construction (`mutual_fuel_witness_all`);
- static machine premises (alignment, window bounds, no-wrap, byte validity, `pcFree`, and code-subset/disjointness) wherever their concrete windows are supplied;
- the full entry contract at fuel zero via `validate_machine_indexed_family_zero`, and structural empty-window `SharedFuel`/`ValidateFuel` inhabitants.

What is not yet constructed:

- `hbase` still needs a concrete `SharedMachineContract` continuation/output witness and a `ValidateKnotBodyContract` at `V+36` (`validateEntry + 36`). The empty-window route exits before that PC: in the freshly linked ELF `gen-out/12457-c80/stateless_guest.elf` (SHA-256 `80c0b85d30f5f539ea5b2f440585c3497914106a57ee7cebcbc1cbb387ffff55`), `rlp_validate_payload` at `0x80004e00` branches on `cursor == end` to `0x80004e20` (the success return), while the nested-call instruction at `0x80004e08` (`entry + 36`) is not reached. `validate_machine_indexed_family_zero` therefore stops at the entry contract; it does not manufacture the `V+36` knot-body contract.
- `hstep` remains an open proof constructor. Its positive arm must apply the smaller-index machine contracts to the Shared list-arm adapter and the knot-body continuation. The recursive continuation requires a uniform CPS bound; the honest interface is an exhibited monotone `KnotStepBudget.B : Nat → Nat` with each per-window `steps ≤ B fuel`, so child bounds lift by monotonicity. The shared dependent post also needs its success cursor pin. No current theorem supplies these machine facts.

This is a missing construction, not an uninhabitable premise: no accepting-arm contradiction has been shown. The eliminator has one tree reference (its own definition) and zero consumers before this smoke test, so the actual `hbase`/`hstep` construction must be reviewed as the first real consumer rather than treated as an established foundation. `HeaderDecode.lean` remains untouched pending K39 sequencing.

**Comment by pirapira** [comment]
## Defect report: `ValidateKnotBodyContract` is under-specified for any consumer that executes V+36

Found by `evm-asm3-codex` while constructing `hbase` for the all-fuel closure. **Two independent
defects**, both in an existing contract, reported as a contract repair rather than worked around at the
call site.

### 1. Missing composite-code containment

| location | what it exposes |
|---|---|
| `ValidateKnotBodyContract` (`RlpWalkNextStrictFuelMachine.lean:96-115`) | only `validateCR ⊆ wholeCode` (`hvalidateSub`) |
| `knotBodyMachineIndexedFamily` (`:119-136`) | same |
| `validate_knot_body_under_shared` (`…Cont.lean:1053-1097`) | **requires** call-disjointness **plus** `hbodySub` for `((singleton call ∪ nestedCR) ∪ contCode) ⊆ wholeCode` |

⇒ The contract's `proof` field executes the V+36 `JAL` into `nestedCR`/`sharedCR`, but nothing in the
contract or the family requires that code to be inside `wholeCode`.

⛔ **This makes the contract refutable, not merely unprovable.** `cpsTripleWithin_needs_entry_code`'s own
docstring says so generically:

> *"for every phase hypothesis, confirm `cr` pins entry — and, **by the same argument applied at each
> fetch, every address the phase or its callees execute**. This is MptWalk defect 1 (PR #12141) stated
> generically: the residual there `jal`s into a callee its `cr` leaves unpinned, so the same 'already
> halted at the unpinned address' state refutes it."*

⇒ So this is a **recurrence of an already-fixed defect** under a different name.
`validate_machine_contract_empty_base` only escapes it by never executing V+36.

### 2. ⛔ ABI misalignment at the V+36 pre — this one is false, not incomplete

- `validateKnotBodyPre` / `validateKnotFrameRest` bind `x2 = sp` with `memIs` at `sp`, `sp+8`, `sp+16`.
- The `sharedCode` prologue requires entry `x2 = sharedSp + 64` and stores at `sharedSp`, `+8`, `+16`.
- Matching `x2 = sp` therefore forces `sharedSp = sp − 64`, so the body needs `memOwn`/`memIs` at
  `sp−64`, `sp−56`, `sp−48`.
- **Those are absent from the pre, and `P : Assertion` is arbitrary — including `emp`.**

⇒ A contract instantiable at `P = emp` while its callee **writes** at `sp−64` does not have a missing
premise; it asserts something the machine violates.

### ⭐ Why both survived: zero consumers

`ValidateKnotBodyContract` has **5 references, all inside one file**
(`RlpWalkNextStrictFuelMachine.lean`). Nothing outside that file had ever used it, so neither defect could
surface. The agent building `hbase` is its **first real consumer**, and found both within an hour.

⇒ This is the *existence is not use* pattern producing its most expensive form: not an unused artefact
(recoverable), but an unused artefact that **accumulated defects while looking available**. Two of the
three defect classes a green build cannot detect were sitting in it.

### Requested decision

The fix belongs in the contract, not in one instantiation — the next V+36 consumer would hit both again.
Concretely: add the composite inclusion (`CodeReq.union_satisfiedBy` / `union_hit` are the existing idioms
at `…Contracts.lean:1376` and `…ListArm.lean:220`), and either extend the pre with the `sp−64 … sp−48`
ownership or constrain `P` so `emp` is excluded.

⚠️ Until that lands, `hbase` cannot be constructed honestly, so the #12457 all-fuel closure is blocked on
a contract repair rather than on proof effort. The agent has been told **not** to add a call-site
workaround.

**Comment by pirapira** [comment]
## Pointer: an orphaned branch already contains the outer-walker layer this issue needs

Recorded by `coord` so this is not re-discovered from scratch. **No action requested; nothing is being
proposed for merge.**

`codex/12346-validate-header` @ `21985b45a` — tip **2026-08-16 09:30**, **no PR**, 680 `main` commits
since its merge-base (`b76bde14c`, 08-15 22:12). Nine commits, **pure additions** against that base.

| file | branch | `origin/main` | verdict |
|---|---|---|---|
| `Programs/HeaderExtendedDecodeWalkSpec.lean` | 1343 L | **absent** | **not superseded** — main has no equivalent outer-walker init/skip/field segment composition |
| `Programs/HeaderExtendedDecodeConverterSpec.lean` | 187 L | **absent** | not superseded |
| `Programs/HeaderU64ExtractSpec.lean` | 839 L | 672 L | **superseded** by merged #12296/#12476 (generic six-site `header_extended_decode_u64_segment_spec_within` + six re-anchor checks + registry wiring) |

Commit subjects: compose walker skip with next call adapter · instantiate first linked walker segment ·
expose concrete walker call frame · instantiate remaining header walker skip segments · frame strict
header converter calls.

### Why it is not ready salvage

Assessed by `evm-asm3-codex`, which owns #12346:

- the branch theorem names have **zero consumers** — existence is not use;
- the real blocker is the `ValidateKnotBodyContract` defect reported in this issue's 13:04 comment
  (missing composite-code containment + false ABI pre at V+36), which has to be repaired first;
- **no evidence the walker statements were abandoned for a false premise.** Classification is
  *still-needed salvage, blocked*, not *abandoned for cause*.

### Caveats on the numbers above

- Content-checked file-by-file against `origin/main`, **not** by ancestry — a `git diff --stat` of this
  branch reports ~75,837 "deletions", which are `main`'s four days of work absent from an old branch,
  not deletions the branch makes. Do not read that stat as destructive.
- **Authorship is not attributable.** Every commit carries the shared git identity, and the `codex/`
  branch prefix does not identify an agent. No owner is being asserted.
- Drift grows daily; a rebase gets more expensive the longer this sits. Whether to salvage, PR as WIP,
  or close is a maintainer call and is deliberately left open here.

**Comment by pirapira** [comment]
## The floor under #12346, scoped: a mutual-recursion knot, not one missing artifact

Read-only scope by `codex2`. Filed by `coord` because this is the clearest statement of what #12346's
completion actually requires, and because it **corrects a doubt of mine that was wrong**.

### 1. `RlpWalkNextStrictFuelListArm` is scaffolding, not a production list proof

⛔ I saw the filename on `main` and doubted the "list arms remain untied" claim. The doubt was wrong.
Every lemma in that file **takes the hard part as a hypothesis**:

| lemma | what it actually does |
|---|---|
| `shared_list_prefix_to_length_branch` | proves the fixed 6-step `S+60 → S+84` LIST setup |
| `shared_list_arm_from_prefix` | consumes an **abstract `hArm`** at `S+84` |
| `shared_list_arm_cps_under_validator` | merges **supplied** short `S+148` / long `S+88` triples |
| `shared_list_arm_contract_from_adapter` | packages **supplied** contracts through an opaque `Validator` |

And on consumption: `shared_list_arm_existing_contract_instantiated` is **consumed nowhere**. Lean-LSP
references put `…_from_adapter` only at its declaration and internal use; `rg` finds **no production Lean
consumer**. The sole external path is the `Progress/Routines` `coverRef` plus its private witness and
`#print axioms` — **registry/axiom-gate coverage, not a production composition.**

⇒ *Existence is not use*, applied to a file I had cited as evidence against the gap.

### 2. What `RlpWalkNextStrictTie` leaves uncovered, in repair-shaped terms

`rlp_walk_next_shared_nonlist_strict_spec_within` covers **only the `pfx < 0xc0` byte-string arm** (with a
concrete instance). The excluded surface is **every `pfx ≥ 0xc0` list input**:

- `depth ≥ 1024` goes through a separate terminal/reject arm — the current `SharedListArmInputs` goal
  **assumes `depth < 1024`**;
- the nonterminal list path splits at `S+84` into short `S+148` vs long `S+88`, builds the payload, `JAL`s
  `rlp_validate_payload` at `S+156`, then needs the `S+160` return/status/depth continuation **and** the
  recursive shared edge.

**Repair-shaped residual: `SharedListArmsFromValidateGoal`** — real bytes/prefix/list/depth/end-pointer
facts plus a child `validateMachineIndexedFamily`, producing both arm triples under
`sharedCode.union validateCR`.

### 3. `hshared` and the list tie are DIFFERENT but MUTUALLY RECURSIVE

This was the question with the most leverage, and the answer is neither "same gate" nor "independent":

- `rlp_validate_payload_cps_under_shared` takes `hshared` as a **supplied** CPS triple for the shared
  routine (`S → validateEntry+40`) plus continuation and success/failure post implications. It does **not**
  construct the list caller's short/long contracts.
- `SharedListArmsFromValidateGoal` supplies a child validator family to build those caller contracts, but
  does **not** prove `hshared`.
- `ValidateFromSharedGoal` consumes a smaller shared family plus an entry proof to obtain a `Validate`
  contract.

⇒ **A three-edge mutual-recursion knot.** Not one artifact — but a bounded, named one, which is better than
the previous state of "the list arms are untied".

### 4. ⛔ And a hazard in the same class as #12661

`sharedCR` / `validateCR` are built from the **offline 23-instruction** `rlpValidatePayloadOffline_prog`,
while the production adapter's **linked 21-instruction** wrapper carries only frame/inhabitance/`JAL` facts
— **not** this CPS discharge.

⇒ **The CPS proof is over a different program than the linked one**, exactly the shape found on #12661
(`rlp_decode_correct` proved over synthetic `decCr` with indirect calls while the image uses direct `jal`).
Any repair here must close that too, or it inherits the same gap.

### Consequence for #12346

`hcore`'s pre is repaired (#12717) and `hcore` is *attemptable*. Its caller obligation reduces to the
five-field projection, which reduces to the decoder correspondence, which reduces to **this knot plus the
offline/linked program mismatch**. That is the honest depth of the remaining path, and it is now named at
every level rather than estimated.

**Comment by pirapira** [comment]
## Does closing this knot yield a theorem free of assumed triples? **Partly — and what survives is the #12661 gap.**

Analysis by `coord`, in answer to a maintainer question. Builds on the scope above.

### The mutual assumptions: yes, the eliminator absorbs them

`RlpWalkNextStrictFuelModel.lean:164` already has the shape required:

```lean
theorem cycleFuel_mutual_strong_induction
    {Shared Validate : Nat → Prop}
    (hstep : ∀ fuel, (∀ k, k < fuel → Shared k ∧ Validate k) → Shared fuel ∧ Validate fuel) :
    ∀ fuel, Shared fuel ∧ Validate fuel
```

Neither edge is *assumed* — each obtains the other at smaller fuel from the induction hypothesis. And
`:180` adds **`cycleFuel_mutual_strong_induction3`** for a three-family version, whose docstring states the
reason plainly: *"the validator's item arm enters the nested wrapper, and the nested wrapper re-enters the
shared walker after advancing the cursor."*

⇒ That is the same three-edge structure the scope above found
(`SharedListArmsFromValidateGoal` ↔ `hshared` ↔ `ValidateFromSharedGoal`), so the eliminator for it exists.

### ⛔ Two obligations the induction cannot absorb

1. **The offline↔linked program identification.** `sharedCR` / `validateCR` are built from the **offline
   23-instruction** `rlpValidatePayloadOffline_prog`, while the production adapter's linked wrapper is **21
   instructions** carrying only frame/inhabitance/`JAL` facts. An induction proves things about the program
   it is stated over; it cannot identify that program with the one in the image. **This is the same gap as
   #12661** (`rlp_decode_correct` proved over synthetic `decCr` with indirect calls while the linked image
   uses direct `jal`).
2. **The entry obligation.** `ValidateFromSharedGoal` consumes *a smaller shared family **plus an entry
   proof***. The eliminator supplies the family, not the entry.

### Net answer

**Closing the knot removes the mutually-assumed triples. It does not produce an unconditional result** — the
outcome stays conditional on the offline↔linked identification.

⭐ Which argues *for* doing it: that identification is already blocking #12661 independently, so one artifact
serves both. But it should be scoped as **two** pieces of work, not one, and a plan that closes only the
knot will still land a conditional theorem.

⚠️ Stated limit: I read the eliminator's statement and the scope above; I have not attempted the
composition. That `…induction3`'s three families line up **exactly** with the knot's three edges is an
inference from arity and the docstring, not a verified match.

**Comment by pirapira** [comment]
## ⛔ Correction to my comment above: it is TWO independent families plus a derived adapter, not three edges

Measured by `codex2` (Step 1, read-only). **This corrects the "three-edge mutual-recursion knot" framing in my earlier comment — the count was mine and it was wrong.** B is *smaller* than I described.

### The actual machine decomposition

`cycleFuel_mutual_strong_induction3`'s `Shared` / `Validate` / `Nested` do match the semantic nodes — shared walker, validate payload routine, nested wrapper. **But `Nested` is not an independent family to prove**: `validate_nested_alias_indexed` derives its one-`JAL` `IndexedCpsContract` directly from a smaller `Shared` contract, adding one step.

| named residual | what it actually is |
|---|---|
| `SharedListArmsFromValidateGoal` | the **Shared-list constructor**, consuming a smaller **Validate** family |
| `ValidateFromSharedGoal` | the **Validate builder**, consuming a smaller **Shared** family **plus an entry proof** |
| `hshared` | **not a third family** — a Shared CPS *witness* consumed by the validator/knot composition |
| `Nested` | **mechanically derived** from Shared, not proved independently |

⇒ **Two independent recursive families** (`sharedMachineIndexedFamily`, `validateMachineIndexedFamily`/knot body) **plus a derived adapter.** **No fourth family is needed**, and `induction3` is the right structural eliminator, instantiated with `Nested` as the Shared→Nested adapter.

⚠️ So the three named residuals should **not** be described as three independent eliminator obligations. I did exactly that above.

### ✅ The extend_code claim, now measured rather than argued

My earlier comment asserted the induction cannot absorb the offline↔linked identification, flagged as reasoning. **Confirmed by measurement.**

`cpsTripleWithin_extend_code` accepts only `hmono` — every exact instruction lookup in `cr` is the same lookup in `cr'` — then widens `CodeReq.SatisfiedBy`. It preserves entry/exit/pre/post and **cannot relocate or rewrite a body**.

The two programs **fail `hmono` concretely**. Both start at `V`, but:

| | offline (23 instr) | linked (21 instr) |
|---|---|---|
| `V+8` | `SD x10, x2, 8` | `SD x13, x2, 8` |
| `JAL` site | `V+36` → offline nested adapter | `V+40` → `recursive_decode_items` |

⇒ **Different instructions at the same addresses.** No `extend_code` route identifies offline-23 `validateCR` with the linked-21 wrapper, so **a production CPS triple remains separately required** — and that requirement is shared with #12661, which is the argument for doing it once.

No proof attempt has been made yet; this is the sizing verdict only.

**Comment by pirapira** [comment]
## ⭐⭐ The `ValidateKnotBodyContract` defect is now independently corroborated — two agents, two entry points, same two defects

Recorded by `coord` so the two derivations are linked rather than read as duplicates.

The defect report of **2026-08-20 13:04** (`evm-asm3-codex`, found while constructing `hbase` for the
all-fuel closure) has been re-derived today by `codex2`, arriving from the opposite direction — tracing the
**actual `V+36` consumer** while attempting the Shared/Validate closure. Both defects match:

| defect | as re-derived |
|---|---|
| missing composite-code containment | the proof executes the `V+36` `JAL` but records only `validateCR ⊆ wholeCode` (`hvalidateSub`); nothing covers the singleton call, `nestedCR`, and continuation composite that `validate_knot_body_under_shared` actually executes |
| false ABI/frame pre | `validateKnotBodyPre` binds `x2 = sp` while the shared frame writes at caller-frame `sp−64`, `sp−56`, `sp−48`; those resources are **absent from the pre for arbitrary `P`, including `emp`** |

⇒ **Two agents, different days, different entry points, identical findings.** That is corroboration rather
than two readings of one instrument — and it settles that the contract is the defect, not either agent's
composition. (Worth stating because *"two readers of the same wrong instrument is not corroboration"* has
bitten this project before; this is the other case.)

### Why it now blocks the closure rather than merely annotating it

The frame defect is the third instance in one session of a single pattern: **a pre that does not own what the
body writes.** The other two were `x10` in `productionItemsPost` (fixed, merged #12711) and the missing
header ownership that made `hcore` false (fixed, merged #12717).

⇒ A family proof built on this knot-body contract would be **unsound in exactly the way a green build cannot
detect**, so the repair sequences **before** either recursive family, not after.

⭐ The original report's disposition stands and is the right one: **a contract repair, not a call-site
workaround.** `codex2` has recorded the same refusal in #12724's body — *"I will not paper over either
defect with a call-site premise or an assumed triple"* — and stopped at the construction checkpoint rather
than pushing through.

⚠️ Open sub-question, flagged before effort is spent: whether composite containment is **an added atom or a
new `CodeReq` construction**. If the latter, it is a design decision rather than a contract edit and should
be taken deliberately.

**Comment by pirapira** [comment]
## Repair plan for `ValidateKnotBodyContract` — one half is additive, one half is a design decision

Shape reported by `codex2` before any edit or build, at `coord`'s request. **Two coordinated contract
edits, no call-site workaround.**

### Frame side — additive, and the direction already sanctioned

Extend `validateKnotBodyPre` / `validateKnotFrameRest` with `memOwn` at the shared-frame cells **`sp−64`,
`sp−56`, `sp−48`** (with `x2 = sp`, the nested `Shared` call's own SP is `sp−64`), propagate those atoms
through the body composition, and exhibit a **non-degenerate `P`** carrying them.

⭐ This is the same repair shape as two fixes already merged this session — `x10` in `productionItemsPost`
(#12711) and the missing header ownership that made `hcore` false (#12717): **make the pre own what the body
writes.** `coord` has authorised this half to proceed, as it is strictly a strengthening of the pre in the
direction the original defect report specified, with the non-degenerate-inhabitant test attached.

### ⛔ Code side — a `CodeReq` CONSTRUCTION, not an atom. Maintainer decision.

> *"Define the concrete `V+36` `JAL` singleton, compose it with `nestedCR` and the continuation `CodeReq`,
> parameterize `ValidateKnotBodyContract`/family by `contCode` (or an equivalent composite), and require the
> composite lookup to be contained in `wholeCode`. Existing `hvalidateSub` alone cannot express this."*

⇒ This **changes the contract's signature**, so it ripples to every consumer of
`ValidateKnotBodyContract` and its family. It is not a contract edit but a shape choice — parameterize by
`contCode`, or introduce an equivalent composite — and it should be taken deliberately rather than settled
by whoever needs it first.

**`coord` has NOT authorised this half.** It is held pending a maintainer call on which shape the composite
takes.

### Consequence for sequencing

The frame repair alone does **not** make the contract consumable: the code side is independently false for
any consumer executing `V+36`. So the two recursive families (`Shared`, knot-body `Validate`) remain blocked
until both halves land — the frame work is real progress, not a route around the decision.

⚠️ Recorded because a partial repair is exactly the thing that later reads as a completed one.

**Comment by pirapira** [comment]
## ✅ Maintainer decision: composite `CodeReq`, not a `contCode` parameter

Recorded by `coord`. Resolves the shape question held open in the repair plan above.

**Decision:** introduce an **equivalent composite `CodeReq`** rather than parameterizing
`ValidateKnotBodyContract` and its family by `contCode`. Maintainer's reason: *"having a codereq is a bit
simpler."*

⇒ Concretely: define the concrete `V+36` `JAL` singleton, compose it with `nestedCR` and the continuation
`CodeReq` into one composite, and require the **composite** lookup to be contained in `wholeCode`. The
existing `hvalidateSub` (`validateCR ⊆ wholeCode`) cannot express that and is the reason the contract is
false for any consumer executing `V+36`.

### Both halves of the repair are now authorised

| half | status |
|---|---|
| **frame** — `memOwn` at `sp−64`, `sp−56`, `sp−48`, propagated through the body composition | authorised by `coord` (same shape as the merged #12711 and #12717 fixes: *make the pre own what the body writes*) |
| **code** — composite `CodeReq` containment for the `V+36` call footprint | ✅ **authorised now, shape decided** |

⇒ The two recursive families (`Shared`, knot-body `Validate`) unblock **only when both land**. Until then the
contract remains false for `V+36` consumers, and a green build on either half alone does not change that.

### Standing constraints, unchanged

⛔ **No edge discharged by assuming a triple.** Supplying `hArm`, taking the short/long contracts as
hypotheses, or packaging supplied contracts through an opaque `Validator` reproduces the scaffolding already
in `RlpWalkNextStrictFuelListArm`, where `shared_list_arm_existing_contract_instantiated` has no consumer
and the only external path is registry/axiom-gate coverage.

⭐ **Acceptance:** a joint inhabitant of the whole repaired premise set with a **non-degenerate `P`** — `emp`
carries no content and would prove nothing about the `sp−64` cells — plus a clean axiom list. If the repaired
pre proves uninhabitable, that is a finding that outranks the repair.

⚠️ Still separate and still open: the **offline-23 ↔ linked-21** identification, now a kernel-checked
impossibility (`validate_code_req_offline_not_linked`, #12724). No `extend_code` route exists, so a
production CPS triple remains independently required — shared with #12661.
